2194-12-23 10:15:00 Physician Resident Progress Note
Chief Complaint: unresponsiveness
   24 Hour Events:
   CT abdomen last night with raging colitis
   Stool C Diff positive. Started on Vanco/Flagyl
   D/C'd cefepime and IV vanco
   Troponins trending down (.18-->.11).
   TSH- 4.8 (consider restarting synthroid)
   Digoxin- 2.4 (held dig)
   BNP 6848
   Stable on CPAP overnight but RSBI ~160 this AM
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Vancomycin - [**2194-12-23**] 02:30 AM
   Metronidazole - [**2194-12-23**] 02:50 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-23**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 70 (62 - 74) bpm
   BP: 167/125(129) {100/33(49) - 178/125(129)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,983 mL
                                                                  1,742 mL
   PO:
             TF:
   IVF:
                                                                  1,063 mL
                                                                  1,562 mL
   Blood products:
   Total out:
                                                                    642 mL
                                                                    250 mL
   Urine:
                                                                    642 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,341 mL
                                                                  1,492 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (279 - 318) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 167
   PIP: 17 cmH2O
   Plateau: 29 cmH2O
   SpO2: 99%
   ABG: 7.48/42/137/30/7
   Ve: 5.9 L/min
   PaO2 / FiO2: 343
   Physical Examination
   HEENT: yeast?
   Labs / Radiology
   511 K/uL
   12.0 g/dL
   135 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   105 mEq/L
   145 mEq/L
   36.2 %
   20.9 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:23 PM
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
   WBC
   27.4
   20.9
   Hct
   36.7
   36.2
   Plt
   558
   511
   Cr
   0.4
   0.3
   TropT
   0.11
   0.13
   TCO2
   33
   32
   Glucose
   173
   135
   Other labs: PT / PTT / INR:34.9/28.6/3.7, CK / CKMB /
   Troponin-T:64/6/0.13, Lactic Acid:2.6 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Microbiology: Legionella Urinary Antigen  (Final [**2194-12-23**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   [**2194-12-22**] 8:57 pm STOOL     CONSISTENCY: NOT APPLICABLE
                               **FINAL REPORT [**2194-12-23**]**
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2194-12-23**]):
         REPORTED BY PHONE TO [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], R.N. ON [**2194-12-23**] AT 0420.
         CLOSTRIDIUM DIFFICILE.
            FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA.
              (Reference Range-Negative).
            A positive result in a recently treated patient is of
   uncertain
            significance unless the patient is currently symptomatic
            (relapse).
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia.
   Plan:
   # Respiratory failure: Initially suspicious for pneumonia/aspiration
   given  presentation and CXR findings with possible right lower lobe
   infiltrate.  However, given altered mental status and recent lethargy,
   ? if respiratory failure is mental status related?  She has been able
   to wean to pressure support and FiO2 of 40% upon arrival to ICU. No
   evidence for volume overload, CT without evidence of lobar
   consolidation.  Nevertheless, good blood gas and high RSBI.
   - cont mechanical ventilation and wean as tolerated
   -  urine legionella
   - trend fever curve, WBC
   - trend lactate
   - repeat CXR given discordance between ICU team read and clinical
   concern for pneumonia and radiology read reporting clear CXR
   .
   # C Diff colitis:  CT with evidence of extensive colitis.
   .
   # Hypotension: Now resolved s/p IVF and pt mildly hypertensive. Lactate
   was elevated to 4.9 on arrival here, now 2.9.  Likely source of sepsis
   would be colitis.
    - cont to monitor
   - bolus prn for MAP<65 or UOP<30 cc/h
   - f/u urine cx
   - send blood cx and f/u OSH blood cx drawn at [**Hospital1 **] earlier today
   - trend lactate as above
   .
   # Unresponsiveness: Likely secondary to underlying infection. Also on
   multiple sedating pain medications. Now appears to be waking up and is
   responsive and following commands. Likely close to her baseline.
   - cont to monitor
   - hold all sedating medications
   - check TSH and dig level
   .
   # Elevated troponin with lateral ST depressions: Likely myocardial
   strain causing troponin leak. ACS less likely. CK not elevated. Lateral
   ST depressions are old but more pronounced on EKG today. Could
   represent a resolving MI.
   - cont to trend CE
   - repeat EKG
   - check TTE in a few days after acute episode
   .
   # h/o C diff: Per records was on PO vanco and flagyl, unclear when
   started and how long projected course was.
   - cont PO vanco and flagyl for now
   - will obtain further history from NH
   .
   # Afib: On coumadin, digoxin, and metoprolol, and dilt as an
   outpatient. Currently rate is well controlled and she is in afib.
   - hold coumadin in setting of supratherapeutic INR
   - check dig level and continue if not elevated
   - holding dilt and metoprolol in setting of infection and recent
   hypotension
   .
   # CHF: Unknown EF as no records in our system. Currently appears
   euvolemic.
   - obtain TTE as above when clinically stable
   - holding dig, metoprolol, lasix, lisinopril for hypotension and
   infection
   .
   # Hypertension: Holding all anti-hypertensives in setting of infection
   and hypotension.
   .
   # Hypothyroidism: Check TSH. Continue levothyroxine.
   .
   # FEN: Replete lytes prn. NPO. Nutrition consult for tube feeds.
   .
   # Access: peripheral IV
   .
   # PPx: H2 blocker, pneumoboots, supratherapeutic INR, VAT prophylaxis
   .
   # Code: Full code (confirmed with daughter)
   .
   # Dispo: ICU
   .
   # Comm:  Daughter [**First Name8 (NamePattern2) 2165**] [**Name (NI) 1420**] [**Telephone/Fax (1) 3277**]
   - need to contact [**Name (NI) **] to clarify medication doses
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-12-22**] 12:56 PM
   18 Gauge - [**2194-12-23**] 08:15 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-23 11:25:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, colitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Abdominal CT showed evidence of colitis. Stool positive for C diff.
   Flagyl started. Afebrile. WBC remains elevated.
   BNP over 6000.
   Stable on PSV overnight. RSBI > 150 this morning.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2194-12-22**] 11:38 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Vancomycin - [**2194-12-23**] 02:30 AM
   Metronidazole - [**2194-12-23**] 10:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-23**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 64 (62 - 74) bpm
   BP: 156/58(81) {100/33(49) - 178/125(129)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,983 mL
                                                                  1,854 mL
   PO:
             TF:
   IVF:
                                                                  1,063 mL
                                                                  1,674 mL
   Blood products:
   Total out:
                                                                    642 mL
                                                                    250 mL
   Urine:
                                                                    642 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,341 mL
                                                                  1,604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 303 (279 - 318) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 167
   PIP: 17 cmH2O
   Plateau: 29 cmH2O
   SpO2: 99%
   ABG: 7.48/42/137/30/7
   Ve: 5.9 L/min
   PaO2 / FiO2: 343
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Distant
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Clear : , Crackles : Rare rales laterally, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: Mild,
   diffuse. No guarding
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.0 g/dL
   511 K/uL
   135 mg/dL
   0.3 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   105 mEq/L
   145 mEq/L
   36.2 %
   20.9 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:23 PM
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
   WBC
   27.4
   20.9
   Hct
   36.7
   36.2
   Plt
   558
   511
   Cr
   0.4
   0.3
   TropT
   0.11
   0.13
   TCO2
   33
   32
   Glucose
   173
   135
   Other labs: PT / PTT / INR:34.9/28.6/3.7, CK / CKMB /
   Troponin-T:64/6/0.13, Lactic Acid:2.6 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8
   mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: rotated film. Possible right effusion.
   Chest CT: atelectasis along major fissure on right. Small right
   effusion. Mild basilar atelectasis
   Microbiology: Urine legionella negative
   Assessment and Plan
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   C DIFF COLITIS
   ACUTE RESPIRATORY FAILURE
   Continues on the ventilator; RSBI remains high suggesting she is not
   ready for extubation. Would replete potassium and magnesium for optimal
   muscle function. Not entirely clear why she is not able to come off the
   ventilator. Treating for muscle weakness. Pain and/or distention from
   colitis may be interfering to some degree with her ability to take
   adequate tidal volumes. Will try some mild pain treatment. Has remained
   hemodynamically stable.
   Continue treatment for C diff. Antibiotics for pneumonia have been
   stopped in light of the CT scan.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2194-12-22**] 12:56 PM
   18 Gauge - [**2194-12-23**] 08:15 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2194-12-24 07:14:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
   - vanco/flagyl
   - ? R effusion on CXR in am
   - CT a/p official read  pending (prelim- Diverticulitis with associated
   adjacent inflammatory fat stranding and
   phlegmon. No discrete abscess or drainable fluid collection. Right
   basilar airspace opacification concerning for pneumonic consolidation.
   )
   - TFTs still pending
   - BCx data still negative; C diff positive x 1 [**12-22**]
   - Urine legionella negative
   - held off resrating at home anti-hypertensives
   - UOP = 400 cc at 2100 after 1.5 L IVF; rebolused 500 cc at 2200
   - HTN to SPB 220 @ 23:30 --> gave hydral 10 x 1, fentanyl bolus and
   lisinipril 20 mg po x1 ([**1-8**] home dose, which is also per report [**Hospital1 **]
   dosed)
   - Changed at MN vent. Ac 400 x12 8 peep and Fi02 0.4 given ? inc. wob
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Metronidazole - [**2194-12-24**] 02:22 AM
   Vancomycin - [**2194-12-24**] 02:22 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydralazine - [**2194-12-23**] 11:57 PM
   Fentanyl - [**2194-12-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-24**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 66 (58 - 91) bpm
   BP: 169/45(71) {105/33(51) - 185/125(129)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  3,598 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  3,418 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    110 mL
   Urine:
                                                                    425 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,173 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 354 (303 - 354) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 99%
   ABG: ///18/
   Ve: 4.7 L/min
   Physical Examination
   Labs / Radiology
   460 K/uL
   11.3 g/dL
   104 mg/dL
   0.3 mg/dL
   18 mEq/L
   3.1 mEq/L
   21 mg/dL
   119 mEq/L
   145 mEq/L
   35.0 %
   17.8 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:23 PM
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
   WBC
   27.4
   20.9
   18.5
   17.8
   Hct
   36.7
   36.2
   20.0
   35.0
   Plt
   558
   511
   476
   460
   Cr
   0.4
   0.3
   0.3
   0.3
   TropT
   0.11
   0.13
   TCO2
   33
   32
   Glucose
   173
   135
   117
   104
   Other labs: PT / PTT / INR:38.4/29.6/4.1, CK / CKMB /
   Troponin-T:64/6/0.13
   Alk Phos / T Bili:/0.7, Fibrinogen:479 mg/dL, Lactic Acid:2.6 mmol/L,
   LDH:360 IU/L, Ca++:5.8 mg/dL, Mg++:1.2 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Repeat sputum
 last specimen invalid
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-12-23**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-12-24 09:26:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
   CT a/p official read  pending (prelim- Diverticulitis with associated
   adjacent inflammatory fat stranding and
   phlegmon. No discrete abscess or drainable fluid collection. Right
   basilar airspace opacification concerning for pneumonic consolidation.
   )
   Initially  held off resrating at home anti-hypertensives
    HTN to SPB 220 @ 23:30 --> gave hydral 10 x 1, fentanyl bolus and
   lisinipril 20 mg po x1 ([**1-8**] home dose, which is also per report [**Hospital1 **]
   dosed)
   - UOP = 400 cc at 2100 after 1.5 L IVF; rebolused 500 cc at 2200
   RSBI this am 67 with 0/5.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Metronidazole - [**2194-12-24**] 02:22 AM
   Vancomycin - [**2194-12-24**] 02:22 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydralazine - [**2194-12-23**] 11:57 PM
   Fentanyl - [**2194-12-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-24**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 62 (58 - 91) bpm
   BP: 170/44(71) {105/33(51) - 185/101(108)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  3,598 mL
                                                                    267 mL
   PO:
             TF:
   IVF:
                                                                  3,418 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    130 mL
   Urine:
                                                                    425 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,173 mL
                                                                    137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 392 (305 - 392) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.5 L/min
   Physical Examination
   GEN: elderly female, intubated, no acute distress
   HEENT: PERRL, sclera anicteric, dry mucous membranes with poor
   dentition and oral hygiene, no oral lesions
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: a fib, no M/G/R, normal S1 S2
   PULM: CTA  anteriorly, no wheeze or crackles
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: 1+ upper extremity edema, no palpable cords.  radial and DP pulses
   +2
   NEURO: Opens eyes to voice and tracks. Follows simple commands (open
   eyes, squeeze fingers). Plantar reflex downgoing on L and upgoing on
   R.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   460 K/uL
   11.3 g/dL
   127 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.9 mEq/L
   27 mg/dL
   113 mEq/L
   147 mEq/L
   35.0 %
   17.8 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:23 PM
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
   WBC
   27.4
   20.9
   18.5
   17.8
   Hct
   36.7
   36.2
   20.0
   35.0
   Plt
   558
   511
   476
   460
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   TropT
   0.11
   0.13
   TCO2
   33
   32
   Glucose
   173
   135
   117
   104
   127
   Other labs: PT / PTT / INR:38.4/29.6/4.1, CK / CKMB /
   Troponin-T:64/6/0.13, Alk Phos / T Bili:/0.7, Fibrinogen:479 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:360 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia.
   Plan:
   # Respiratory failure:   Improved this am.  ? if this is due to pain
   control as initiated yesterday.  Pt
   - reinitiate pain meds
   - trend fever curve, WBC
   - hold abx treatment for pneumonia at this time, so no radiographical
   evidence.
   .
   # C Diff colitis:  CT with evidence of extensive colitis.  Started on
   Flagyl/Vanc.  Pt has had several loose bowels since admission.
   -          continue to monitor abdomen exam.
   -          Flagyl/vanc for minimum 2 week course.
   .
   # Hypotension: Now resolved s/p IVF and pt mildly hypertensive.  Have
   been holding home antihypertensives in the setting of initial concern
   fro sepsis.
   -          monitor urine output and signs of volume status.
   -          reinitiate BP meds (- holding dig, metoprolol, lasix,
   lisinopril)
   # Elavated Lactate: 4.9 on arrival here, now 2.9.  Likely due to
   colitis.
   - cont to monitor
   - bolus prn for MAP<65 or UOP<30 cc/h
   .
   # Unresponsiveness:   Pt minimally interactive at baseline and appears
   to be interactive to exam.  Initial presentation likely secondary to
   underlying infection.
   - cont to monitor
   .
   # Elevated troponin with lateral ST depressions: Likely myocardial
   strain causing troponin leak.  Trending down.
   - consider ECHO
   .
   # Hypothyroidism:  TSH 4.8.  Was off levothyroxine; will reinitate home
   meds
   .
   # FEN: Replete lytes prn. NPO. Nutrition consult for tube feeds.
   ICU Care
   Nutrition: Holding Tube feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2194-12-23**] 06:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  PPI, pneumoboots
    VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2194-12-24 10:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, C diff, diverticulitis,
   coagulopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient stable on CPAP last night. RSBI 67 this AM.
   Blood pressure up last night. Patient given hydralazine and lisinopril.
   Urine output dropped; patient given fluids with good response.
   Afebrile
   WBC trending down slowly.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: intubated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Metronidazole - [**2194-12-24**] 02:22 AM
   Vancomycin - [**2194-12-24**] 02:22 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Hydralazine - [**2194-12-23**] 11:57 PM
   Fentanyl - [**2194-12-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-24**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 62 (58 - 91) bpm
   BP: 170/44(71) {105/33(51) - 185/101(108)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  3,598 mL
                                                                    276 mL
   PO:
             TF:
   IVF:
                                                                  3,418 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    130 mL
   Urine:
                                                                    425 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,173 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 392 (305 - 392) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 23 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///26/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   460 K/uL
   127 mg/dL
   0.3 mg/dL
   26 mEq/L
   4.9 mEq/L
   27 mg/dL
   113 mEq/L
   147 mEq/L
   35.0 %
   17.8 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:23 PM
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
   WBC
   27.4
   20.9
   18.5
   17.8
   Hct
   36.7
   36.2
   20.0
   35.0
   Plt
   558
   511
   476
   460
   Cr
   0.4
   0.3
   0.3
   0.3
   0.3
   TropT
   0.11
   0.13
   TCO2
   33
   32
   Glucose
   173
   135
   117
   104
   127
   Other labs: PT / PTT / INR:38.4/29.6/4.1, CK / CKMB /
   Troponin-T:64/6/0.13, Alk Phos / T Bili:/0.7, Fibrinogen:479 mg/dL,
   Lactic Acid:2.6 mmol/L, LDH:360 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   C DIFF
   RESPIRATORY FAILURE
   COAGULOPATHY
   HYPERNATREMIA
   AFIB
   Patient doing better on the ventilator. Had a good RSBI this AM. During
   rounds, we placed her on 0 PSV, PEEP 5. The tidal volume was 300-350
   with respiratory rate of 20. Will continue for 30 mins and then
   extubate if she continues to have good RSBI.
   WBC slowly improving. Afebrile. Continue treatment for C diff.
   INR still elevated. Coumadin being held.
   Serum Na 147. This corresponds to a 1.75 liter free water deficit. Free
   water to be repleted today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2194-12-23**] 06:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2194-12-25 07:23:00 Physician Resident Progress Note
Chief Complaint: unresponsiveness
   24 Hour Events:
   -Pt  extubated
   -Given D5 NS, 1L, for hypernatremia
   -Continuing Vanco/Flagyl
   -Stopped Fent drip
   -Held tube feeds in case re-intubation requried
   -Advanced Lisinopril to 40BID, but poor pressure control with systolics
   into the 190's. Gave Hydral, started .15 nitro drip. Improvement to 160
   systolic.
   -Patient wheezy on exam, sating well, but increased risk of breathing.
   On CXR, some increased pulmonary edema in the setting of 1.5 L fluids
   for hypernatremia. Stopped fluids and gave Lasix 40 in afternoon, then
   30 in evening and Morphine with good results.
   - Right IJ placed o/n
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-25**] 02:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-24**] 08:50 PM
   Hydralazine - [**2194-12-24**] 08:50 PM
   Morphine Sulfate - [**2194-12-24**] 09:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   nonverbal
   Flowsheet Data as of  [**2194-12-25**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.6
C (96
   HR: 92 (57 - 92) bpm
   BP: 125/58(75) {110/36(55) - 196/92(113)} mmHg
   RR: 15 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 57 Inch
             Total In:
                                                                  1,638 mL
                                                                    777 mL
   PO:
             TF:
   IVF:
                                                                  1,448 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                  1,160 mL
   Urine:
                                                                  1,030 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    608 mL
                                                                   -383 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 244 (244 - 392) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   SpO2: 99%
   ABG: 7.49/38/121/29/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   GEN: elderly female, wearing face tent, no acute distress, grunts to
   verbal stimuli
   HEENT: PERRL, sclera anicteric, dry mucous membranes with poor
   dentition and oral hygiene, no oral lesions
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: crackles at bases, upper airway sounds bilaterally
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: 1+ upper extremity edema, no palpable cords.  radial and DP pulses
   +2
   NEURO: Opens eyes to voice and tracks. Follows simple commands (open
   eyes, squeeze fingers). Plantar reflex downgoing on L and upgoing on
   R.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   500 K/uL
   11.5 g/dL
   135 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.0 mEq/L
   16 mg/dL
   111 mEq/L
   149 mEq/L
   35.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
   WBC
   20.9
   18.5
   17.8
   16.3
   Hct
   36.2
   20.0
   35.0
   35.4
   Plt
   [**Telephone/Fax (3) 3334**]00
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.2
   TropT
   0.13
   TCO2
   33
   32
   26
   30
   Glucose
   135
   117
   104
   127
   151
   131
   135
   Other labs: PT / PTT / INR:38.6/34.2/4.2, CK / CKMB /
   Troponin-T:64/6/0.13, Alk Phos / T Bili:/0.7, Fibrinogen:479 mg/dL,
   Lactic Acid:1.1 mmol/L, LDH:360 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia.
   # Respiratory failure:   Exubated yesterday. Likely had episode of
   flash pulmonary edema in the setting of volume resucitation with 1.5 L
   D5
 NS at am rounds. HTN with wheezing and crackles in respiratory
   distress for 2 hrs yesterday, unresponsive to nebulizer tx, but rapidly
   improved with lasix, hydral, nitro gtt. Hydal and lasix continuing, but
   nitro gtt off since 0600.
   -          Continue cautious diuresis
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   .
   # C Diff colitis:  CT with evidence of diverticulitis/phlegmon.  On
   Flagyl/Vanc for cdiff.  Pt has had several loose bowels since
   admission.
   -          continue to monitor abdomen exam.
   -          Flagyl/vanc for minimum 2 week course.
   .
   # BP:  Was hypotensive, and now resolved s/p IVF and pt mildly
   hypertensive.  Reinitiated
 dose lisinopril last night.
   -          reinitiate BP meds as tolerated.
   -          CVP check now that pt has central line
   # Afib- holding digoxin for elevated level on admission.  Currently no
   evidence of toxicity.
   -          Restart digoxin
   -          Holding coumadin given supratherapeutic inr. Likely [**2-8**]
   flagyl. Check LFTs.
   # Hypernatremia:  149 this AM. Free water deficit 2 L.  Pt also appears
   dry on exam and UOP down.
   -          Will plan to give 250 cc q4 with Tfs
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline and appears
   to be interactive to exam.  Initial presentation likely secondary to
   underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn. Restart TFs today (were held for colitis and
   ? re-intubation).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: supratherapeutic INR
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-25 10:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, C Diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient became hypertensive with wheezes during the night. TNG infusion
   started and patient given lasix. Respiratory distress improved. Now
   with acceptable O2 sats while utilizing supplemental oxygen via 50%
   mask.
   Negative fluid balance achieved yesterday.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2194-12-24**] 03:20 PM
 MULTI LUMEN - START [**2194-12-24**] 10:00 PM
   History obtained from Patient
   Patient unable to provide history: Dementia, s/p CVA
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2194-12-22**] 07:45 PM
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-25**] 02:11 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-24**] 08:50 PM
   Hydralazine - [**2194-12-24**] 08:50 PM
   Morphine Sulfate - [**2194-12-24**] 09:00 PM
   Other medications:
   Insulin, flagyl, vanco oral, fentanyl patch, lisinopril, free water
   fllushes
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-25**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (96.9
   HR: 96 (57 - 96) bpm
   BP: 138/46(68) {110/36(55) - 196/92(113)} mmHg
   RR: 16 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 57 Inch
             Total In:
                                                                  1,638 mL
                                                                    859 mL
   PO:
             TF:
   IVF:
                                                                  1,448 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                  1,200 mL
   Urine:
                                                                  1,030 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    608 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 244 (244 - 244) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   FiO2: 50%
   SpO2: 96%
   ABG: 7.49/38/121/29/6
   Ve: 7.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Diffuse expiratory wheezes, I/E=[**1-9**]. Wheezes more prominent when she is
   awake., No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): Patient not very communicative, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.5 g/dL
   500 K/uL
   135 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.0 mEq/L
   16 mg/dL
   111 mEq/L
   149 mEq/L
   35.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2194-12-22**]  02:57 PM
                            [**2194-12-23**]  01:05 AM
                            [**2194-12-23**]  03:34 AM
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
   WBC
   20.9
   18.5
   17.8
   16.3
   Hct
   36.2
   20.0
   35.0
   35.4
   Plt
   [**Telephone/Fax (3) 3334**]00
   Cr
   0.3
   0.3
   0.3
   0.3
   0.3
   0.2
   TropT
   0.13
   TCO2
   33
   32
   26
   30
   Glucose
   135
   117
   104
   127
   151
   131
   135
   Other labs: PT / PTT / INR:38.6/34.2/4.2, CK / CKMB /
   Troponin-T:64/6/0.13, Alk Phos / T Bili:/0.7, Fibrinogen:479 mg/dL,
   Lactic Acid:1.1 mmol/L, LDH:360 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Imaging: CXR ([**12-25**] ) - moderate left pleural effusion with increased
   interstitial markings; small left effusion
   Assessment and Plan
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   RESPIRATORY FAILURE
   DIASTOLIC CHF, ACUTE
   HYPERNATREMIA
   COAGULOPATHY
   Patient in less respiratory distress today. Still has O2 requirement,
   and wheezes persist. Maintain on bronchodilators and achieve negative
   fluid balance today.
   INR still elevated; holding coumadin.
   Needs additional free water. With diuresis yesterday, she had
   additional free water losses.
   BP better today. If acute elevations, consider restarting TNG to avoid
   diatolic CHF.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: (Coagulopathic)
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2194-12-26 07:16:00 Physician Resident Progress Note
Chief Complaint: unresponsiveness
   24 Hour Events:
   Hypernatremia with ~2L free water deficit.  Given free water boluses
   q6.  Corrected well without further intervention
   Restarted digoxin.
   CVP's [**6-15**]; Given 20mg lasix at 3pm with good urine output
   weaned down to face mask 40%. Had negative goal, but not pushed as BPs
   were soft and respiratory status improving.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-26**] 02:28 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-25**] 03:46 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Non verbal. Does not appear to be in appain, and shakes head now when
   asked.
   Flowsheet Data as of  [**2194-12-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 90 (79 - 98) bpm
   BP: 119/51(68) {97/38(55) - 145/67(80)} mmHg
   RR: 18 (14 - 36) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 8 (2 - 10)mmHg
   Total In:
                                                                  2,406 mL
                                                                    988 mL
   PO:
   TF:
                                                                    469 mL
                                                                    287 mL
   IVF:
                                                                  1,007 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    215 mL
   Urine:
                                                                  2,400 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      6 mL
                                                                    773 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   GEN: elderly female, wearing face tent, no acute distress, grunts to
   verbal/painful stimuli
   HEENT: PERRL, sclera anicteric
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: CTA anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: 1+ upper extremity edema, no palpable cords. 1+ LE edema
   bilaterally. radial and DP pulses +2
   NEURO: Opens eyes to voice and tracks. Follows simple commands (open
   eyes, squeeze fingers). Plantar reflex downgoing on L and upgoing on
   R.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   449 K/uL
   10.4 g/dL
   126 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   31.2 %
   12.8 K/uL
        [image002.jpg]
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
   WBC
   18.5
   17.8
   16.3
   12.8
   Hct
   20.0
   35.0
   35.4
   31.2
   Plt
   476
   460
   500
   449
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   0.2
   0.3
   0.2
   TCO2
   26
   30
   Glucose
   117
   104
   127
   151
   131
   135
   150
   197
   126
   Other labs: PT / PTT / INR:37.4/35.6/4.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   # C Diff colitis:  CT with evidence of diverticulitis/phlegmon.  On
   Flagyl/Vanc for cdiff (day 1 [**12-22**]).  Pt has had several loose bowels
   since admission.
   -          continue to monitor abdomen exam.
          -      Flagyl/vanc for minimum 2 week course. (likely [**12-22**]
   [**1-5**]). Transition Flagyl to po today.
          -      daughter has requested probiotics which I advised she
   bring in herself, as per hospital policy
   .
   # Respiratory failure:   Exubated [**12-24**]. On [**12-25**], had an episode of
   flash pulmonary edema in the setting of volume resucitation with 1.5 L
   D5
 NS at am. Was hypertensive with wheezing and crackles unresponsive
   to nebulizer tx, but rapidly improved with lasix, hydral, nitro gtt.
   -          Continue supplemental oxygen via facemask for saturations >
   92%
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   -          TTE to evaluate EF in setting of pleural effusions and known
   heart failure
   # CHF: Restart carvedilol and diuretics prn.
   .
   # BP:  Was hypotensive, and now resolved s/p IVF and pt mildly
   hypertensive. CVP 8.  Reinitiated home dose lisinopril and have been
   providing lasix prn. Also takes Carvedilol, Lasix, Spirnolactone at
   home.
   -          Continue lisinopril and reinitiate other home BP meds as
   tolerated.
   -          Restart carvedilol
   -          Follow cvp
   # Afib/Supratherapeutic INR- Restarted digoxin yesterday.  Currently no
   evidence of toxicity.
   -          Restart digoxin. Restart Carvedilol today with holding
   parameters.
   -          Holding coumadin given supratherapeutic inr. Likely [**2-8**]
   flagyl. LFTs wnl.
   # Hypernatremia:  149 yesterday but improved to 141 today with free
   water via PEG tube. UOP improved with lasix.
   -          Will plan to decrease free water flushes to 150 q 6
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline and appears
   to be interactive to exam.  Initial presentation likely secondary to
   underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn. Calciium corrects to 8.4 On TFs (were held
   for colitis and ? re-intubation).
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-25**] 09:19 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: supratherapeutic inr
   Stress ulcer: ppi
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-26 11:23:00 Physician Attending Progress Note
Chief Complaint: Respirartory failure, c diff.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   CVP has been [**6-15**]. Patient given lasix with good response. Fluid balance
   even for the day. Digoxin restarted.
   FIO2 reduced; now on 40% mask.
   24 Hour Events:
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-26**] 02:28 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-25**] 03:46 PM
   Other medications:
   Insulin, fentanyl patch, lisinopril, PPI, digoxin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-26**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (97
   HR: 93 (79 - 98) bpm
   BP: 113/53(68) {97/38(55) - 159/62(79)} mmHg
   RR: 19 (16 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 5 (2 - 10)mmHg
   Total In:
                                                                  2,406 mL
                                                                  1,366 mL
   PO:
   TF:
                                                                    469 mL
                                                                    445 mL
   IVF:
                                                                  1,007 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    250 mL
   Urine:
                                                                  2,400 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      6 mL
                                                                  1,116 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Left greater than right,
   No(t) Bronchial: , No(t) Wheezes : , Diminished: Right base, No(t)
   Absent : , Rhonchorous: Few rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: Trace edema, Left: Trace, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   449 K/uL
   126 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.7 mEq/L
   13 mg/dL
   108 mEq/L
   141 mEq/L
   31.2 %
   12.8 K/uL
        [image002.jpg]
                            [**2194-12-23**]  04:50 PM
                            [**2194-12-24**]  04:08 AM
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
   WBC
   18.5
   17.8
   16.3
   12.8
   Hct
   20.0
   35.0
   35.4
   31.2
   Plt
   476
   460
   500
   449
   Cr
   0.3
   0.3
   0.3
   0.3
   0.2
   0.2
   0.3
   0.2
   TCO2
   26
   30
   Glucose
   117
   104
   127
   151
   131
   135
   150
   197
   126
   Other labs: PT / PTT / INR:37.4/35.6/4.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: probable right effusion. Compared to previous film, no
   significant change.
   Assessment and Plan
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   COAGULOPATHY
   Patient's respiratory status stable off the ventilator. Try to keep
   fluid balance even. C Diff therpy continues.
   Hemodynamics are stable. Digoxin restarted for rate control of Afib.
   INR remains quite elvated despite holding coumadin for several days.
   No evidence of bleeding. Hct stable.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-25**] 09:19 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: (Coagulopathy)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2194-12-27 06:52:00 Physician Resident Progress Note
Chief Complaint: unresponsiveness
   24 Hour Events:
   - Transitioned Flagyl from IV to po. Continued Vanco po.
   - Restarted Carvedilol
   - TTE - LVEF>55. Mild to moderate ([**1-8**]+) AR.  Moderate (2+) MR.
   Moderate [2+] TR. There is moderate pulmonary artery systolic
   hypertension. There is no pericardial effusion
   - 500 cc bolus NS in am with improvement of UOP to 20 cc/hr
   - Lasix 20 mg IV x1 @ 1800
   - case mangament - pt has bedhold at nursing home
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-26**] 10:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-26**] 07:15 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies cp, sob, abd pain
   Flowsheet Data as of  [**2194-12-27**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.5
C (95.9
   HR: 80 (69 - 94) bpm
   BP: 117/52(68) {81/38(48) - 159/64(82)} mmHg
   RR: 17 (16 - 28) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 5 (3 - 13)mmHg
   Total In:
                                                                  3,053 mL
                                                                    901 mL
   PO:
   TF:
                                                                    960 mL
                                                                    273 mL
   IVF:
                                                                  1,173 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    420 mL
   Urine:
                                                                  1,855 mL
                                                                    320 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    948 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   GEN: elderly female, wearing face tent, no acute distress, grunts to
   verbal/painful stimuli
   HEENT: PERRL, sclera anicteric
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: CTA anteriorly; crackles left base, decreased BS at right base
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: 1+ upper extremity edema, no palpable cords. 1+ LE edema
   bilaterally. radial and DP pulses +2
   NEURO: Opens eyes to voice and tracks. Follows simple commands (open
   eyes, squeeze fingers). Plantar reflex downgoing on L and upgoing on
   R.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   432 K/uL
   10.3 g/dL
   106 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   30.6 %
   13.3 K/uL
        [image002.jpg]
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
   WBC
   17.8
   16.3
   12.8
   13.3
   Hct
   35.0
   35.4
   31.2
   30.6
   Plt
   460
   500
   449
   432
   Cr
   0.3
   0.3
   0.2
   0.2
   0.3
   0.2
   0.3
   0.2
   TCO2
   26
   30
   Glucose
   127
   151
   131
   135
   150
   197
   126
   129
   106
   Other labs: PT / PTT / INR:37.4/35.6/4.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   # C Diff colitis:  CT with evidence of diverticulitis/phlegmon.  On
   Flagyl/Vanc for cdiff (day 1 [**12-22**]).  Pt has had several loose bowels
   since admission, and continues to have loose stool through Flexiseal
   rectal tube.
   -          continue to monitor abdomen exam.
          -      Flagyl/vanc for minimum 2 week course. (likely [**12-22**]
   [**1-5**])
          -      daughter has requested probiotics which I advised she
   bring in herself, as per hospital policy
   .
   # Respiratory failure:   Exubated [**12-24**]. On [**12-25**], had an episode of
   flash pulmonary edema in the setting of volume resucitation with 1.5 L
   D5
 NS at am. Was hypertensive with wheezing and crackles unresponsive
   to nebulizer tx, but rapidly improved with lasix, hydral, nitro gtt.
   CXR demonsrates large RIGHT sided pleural effusion. Unlikely to be
   malignant or panapneumonic given that effusion was not present on
   admission CXR [**12-22**]. Although patient carries a dx of CHF, TTE on [**12-26**]
   demonstrated intact left sided systolic function.
   -          Continue supplemental oxygen via facemask for saturations >
   92%
   -          Repeat abg to monitor for hypercarbia
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   -          Plan to diurese today in effort to improve RIGHT sided
   pleural effusion. No plan for thoracentesis today, but if oxygenation
   worsens would consider a therapeutic tap.
   # CHF: Continue carvedilol and diuretics prn. Once BP more stable,
   consider restarting at home diuretics of Spironlactone.
   .
   # BP/Hemodynamics:  Was hypotensive, and now resolved s/p IVF and pt
   mildly hypertensive. CVP 5.  Reinitiated home dose lisinopril and have
   been providing lasix prn. Also takes Carvedilol, Lasix, Spirnolactone
   at home.
   -          Continue lisinopril and Carvedilol
   -          Follow cvp
   -          Monitor UOP and consider lasix to keep patient net negative
   500 cc to 1 L
   # Afib/Supratherapeutic INR- Restarted digoxin yesterday.  Currently no
   evidence of toxicity. INR now subtherapeutic, and coumadin was held
   since admission secondary supratherapeutic INR that was felt to be [**2-8**]
   flagyl.
   -          Restarted digoxin. Restarted Carvedilol today with holding
   parameters.
   -          Restart coumadin at
 home dose today and monitor INR.
   # Hypernatremia:  Improved with free water via PEG tube. UOP improved
   with lasix.
   -          Will plan to decrease free water flushes to 150 q 6
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline and appears
   to be interactive to exam.  Initial presentation likely secondary to
   underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn. Calciium corrects to 8.4 On TFs (were held
   for colitis and ? re-intubation).
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-26**] 01:04 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: supratherapeutic inr, pneumoboots
   Stress ulcer:  ppi
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-27 09:13:00 Physician Attending Progress Note
Chief Complaint: c diff colitis and sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2194-12-26**] 12:11 PM - large r pl eff, intact
   sys EF, mod PA HTN, no pericardial eff
   Low UOP - given low dose lasix with good effect
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-24**] 08:24 PM
   Metronidazole - [**2194-12-26**] 10:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-26**] 07:15 PM
   Other medications:
   Insulin, Lisinopril, PPI, Digoxin, Coreg,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-27**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 93 (69 - 105) bpm
   BP: 132/55(85) {81/38(48) - 155/64(85)} mmHg
   RR: 13 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 5 (3 - 13)mmHg
   Total In:
                                                                  3,053 mL
                                                                  1,169 mL
   PO:
   TF:
                                                                    960 mL
                                                                    367 mL
   IVF:
                                                                  1,173 mL
                                                                    182 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    515 mL
   Urine:
                                                                  1,855 mL
                                                                    415 mL
   NG:
   Stool:
                                                                    250 mL
   Drains:
   Balance:
                                                                    948 mL
                                                                    654 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   Gen: lying in bed, awake, but not interactive, no acute distress
   HEENT: op dry RIJ in place
   CV: RR
   Chest: decreased BS right
 way up, rales left base, no wheezes
   Abd: soft NT + BS
   Ext: 3+ pedal edema
   Labs / Radiology
   10.3 g/dL
   432 K/uL
   106 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   11 mg/dL
   104 mEq/L
   141 mEq/L
   30.6 %
   13.3 K/uL
        [image002.jpg]
                            [**2194-12-24**]  05:26 AM
                            [**2194-12-24**]  06:57 PM
                            [**2194-12-24**]  08:36 PM
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
   WBC
   17.8
   16.3
   12.8
   13.3
   Hct
   35.0
   35.4
   31.2
   30.6
   Plt
   460
   500
   449
   432
   Cr
   0.3
   0.3
   0.2
   0.2
   0.3
   0.2
   0.3
   0.2
   TCO2
   26
   30
   Glucose
   127
   151
   131
   135
   150
   197
   126
   129
   106
   Other labs: PT / PTT / INR:18.3/26.6/1.7, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   1. Resp : Patient's respiratory status stable off the ventilator but on
   exam she is having shallow breathing, RLL bronchial BS, likely
   compressive atelectasis in setting of large right pl effussion.  Will
   check ABG, will attempt 500 cc to 1000 cc negative, sit up in bed
   even OOB to chair, Role of tap is challenging as it is not clearly
   impacting her oxygenation, is likely due to fluid overload which should
   resolve with diuresis, and would require reversing INR (and fluid) to
   perform. In order to better assess risk benefit switch her to Venti
   mask and titrate Oi2 needs as we diurese today and hold off on tapping.
   2. Hemodynamics are stable. Digoxin restarted for rate control of Afib.
   3. INR: coming down slowly,
   Remaining issues as per Housestaff notes
 reviewed and discussed on
   rounds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-26**] 01:04 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: boots and high inr
   Stress ulcer: PPI
   Communication:  with her daughter
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent:  35

2194-12-28 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - INR trending down (1.7) and so Coumadin restarted at 2mg
   - Worsening pleural effusion on right lung; given 40mg lasix
   - PO Vanco and Flagyl continue for C. Diff for two week course.
   - Received KPhos this AM
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-26**] 10:39 AM
   Vancomycin - [**2194-12-28**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-27**] 08:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  pt minimally responsive; unable to assess
   Flowsheet Data as of  [**2194-12-28**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 85 (75 - 112) bpm
   BP: 134/55(77) {89/40(57) - 159/69(87)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  2,300 mL
                                                                    965 mL
   PO:
   TF:
                                                                    960 mL
                                                                    284 mL
   IVF:
                                                                    540 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    318 mL
   Urine:
                                                                  3,025 mL
                                                                    318 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                    647 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48/41/99.[**Numeric Identifier **]/36/6
   Physical Examination
   GEN: elderly female, nc in place, no acute distres
   HEENT: PERRL, sclera anicteric
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no appreciable murmur, normal S1 S2
   PULM: CTA anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: trace upper extremity edema, no palpable cords. 1+ LE edema
   bilaterally. radial and DP pulses +2
   NEURO: Opens eyes to voice.  Minimally arousable this AM and not
   following commands. Plantar reflex downgoing on L and upgoing on R.
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   475 K/uL
   11.0 g/dL
   149 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.3 mEq/L
   11 mg/dL
   100 mEq/L
   139 mEq/L
   32.5 %
   16.0 K/uL
        [image002.jpg]
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
   WBC
   16.3
   12.8
   13.3
   16.0
   Hct
   35.4
   31.2
   30.6
   32.5
   Plt
   [**Telephone/Fax (3) 3390**]75
   Cr
   0.2
   0.2
   0.3
   0.2
   0.3
   0.2
   0.2
   0.3
   TCO2
   30
   31
   Glucose
   131
   135
   150
   197
   126
   129
   106
   133
   149
   Other labs: PT / PTT / INR:15.1/24.1/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 1 [**12-22**]).  Pt has had
   several loose bowels since admission, and continues to have loose stool
   through Flexiseal rectal tube.
   -          continue to monitor abdomen exam.
          -      Flagyl/vanc for minimum 2 week course. (likely [**12-22**]
   [**1-5**])
   .
   # Respiratory failure:   Continues to improve; now on 2L NC.  CXR
   pending this AM
   -          Continue supplemental oxygen via facemask for saturations >
   92%
   -          Repeat abg to monitor for hypercarbia
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   -          Plan to diurese today in effort to improve RIGHT sided
   pleural effusion. No plan for thoracentesis today, but if oxygenation
   worsens would consider a therapeutic tap.
   # CHF/Hemodynamics: Continue carvedilol and diuretics prn.  BP stable
   last 24 hours.  Has bilateral LE edema. Would consider restarting at
   home Spironlactone to avoid bolus effect of Lasix.
   -          Continue lisinopril and Carvedilol
   -          Monitor UOP and consider lasix to keep patient net negative
   500 cc to 1 L
   # Afib/Supratherapeutic INR- Restarted digoxin yesterday.  Currently no
   evidence of toxicity. INR continues to be subtherapeutic.
   -          Continue coumadin at
 home dose today and monitor INR.
   # Hypernatremia:  Resolved with free water via PEG tube.
   -          continue free water flushes to 150 q 6
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline.  Initial
   presentation likely secondary to underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn.
   ICU Care
   Nutrition:  Tube feeds
   Fibersource HN (Full) - [**2194-12-27**] 02:03 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: coumadin (subtherapeutic), pneumoboots
   Stress ulcer:  ppi
   VAP:  not intubated
   Code status: Full code
   Disposition: ? transfer to floor

2194-12-28 09:33:00 Physician Attending Progress Note
Chief Complaint: sepsis, resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yr old female with C diff sepsis
   24 Hour Events:
   Inr trending down, restarted Coumadin
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-26**] 10:39 AM
   Vancomycin - [**2194-12-28**] 08:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-27**] 08:00 PM
   Lansoprazole (Prevacid) - [**2194-12-28**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-28**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.8
C (96.5
   HR: 83 (75 - 112) bpm
   BP: 126/46(65) {89/40(57) - 159/72(88)} mmHg
   RR: 23 (17 - 24) insp/min
   SpO2: 92%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 57 Inch
   CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  2,300 mL
                                                                  1,124 mL
   PO:
   TF:
                                                                    960 mL
                                                                    379 mL
   IVF:
                                                                    540 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    408 mL
   Urine:
                                                                  3,025 mL
                                                                    408 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                    716 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.48/41/99.[**Numeric Identifier **]/36/6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   475 K/uL
   149 mg/dL
   0.3 mg/dL
   36 mEq/L
   4.3 mEq/L
   11 mg/dL
   100 mEq/L
   139 mEq/L
   32.5 %
   16.0 K/uL
        [image002.jpg]
                            [**2194-12-25**]  04:04 AM
                            [**2194-12-25**]  04:13 AM
                            [**2194-12-25**]  12:15 PM
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
   WBC
   16.3
   12.8
   13.3
   16.0
   Hct
   35.4
   31.2
   30.6
   32.5
   Plt
   [**Telephone/Fax (3) 3390**]75
   Cr
   0.2
   0.2
   0.3
   0.2
   0.3
   0.2
   0.2
   0.3
   TCO2
   30
   31
   Glucose
   131
   135
   150
   197
   126
   129
   106
   133
   149
   Other labs: PT / PTT / INR:15.1/24.1/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.4 mg/dL, Mg++:2.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   1. Resp : Patient's respiratory status stable off the ventilator but on
   exam she is having shallow breathing, RLL bronchial BS, likely
   compressive atelectasis in setting of large right pl effussion.  Will
   check ABG, will attempt 500 cc to 1000 cc negative, sit up in bed
   even OOB to chair, Role of tap is challenging as it is not clearly
   impacting her oxygenation, is likely due to fluid overload which should
   resolve with diuresis, and would require reversing INR (and fluid) to
   perform. In order to better assess risk benefit switch her to Venti
   mask and titrate Oi2 needs as we diurese today and hold off on tapping.
   2. Hemodynamics are stable. Digoxin restarted for rate control of Afib.
   3. INR: coming down slowly,
   Remaining issues as per Housestaff notes
 reviewed and discussed on
   rounds.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-27**] 02:03 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:

2194-12-29 07:18:00 Physician Resident Progress Note
Chief Complaint: colitis
   24 Hour Events:
   - Given 40mg lasix x2 for goal of [**1-8**] to 1L negative.
   - CXR with white out of right lung.  Minimal improvement with chest PT
   and initial diuresis...
   - planned to restart on home spironolactone but did not get first dose.
   - was oob to chair.
   - npo for ? bronchoscopy
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-28**] 06:08 PM
   Vancomycin - [**2194-12-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-12-28**] 08:04 AM
   Furosemide (Lasix) - [**2194-12-28**] 06:30 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, sob, n/v
   Flowsheet Data as of  [**2194-12-29**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 97 (79 - 109) bpm
   BP: 85/37(49) {85/37(49) - 162/72(87)} mmHg
   RR: 19 (17 - 25) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 2 (1 - 11)mmHg
   Total In:
                                                                  2,254 mL
                                                                    533 mL
   PO:
   TF:
                                                                    960 mL
                                                                    160 mL
   IVF:
                                                                    204 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,874 mL
                                                                    245 mL
   Urine:
                                                                  2,874 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                    288 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///36/
   Physical Examination
   GEN: elderly female, nc in place, no acute distres
   HEENT: PERRL, sclera anicteric
   NECK: No JVD, no bruits, no cervical lymphadenopathy, trachea midline
   COR: RRR, no appreciable murmur, normal S1 S2
   PULM: CTA anteriorly
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: trace upper extremity edema, no palpable cords. 1+ LE edema
   bilaterally. radial and DP pulses +2
   NEURO: Opens eyes to voice.  Minimally arousable this AM and not
   following commands. Plantar reflex downgoing on L and upgoing on R.
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   464 K/uL
   11.3 g/dL
   157 mg/dL
   0.2 mg/dL
   36 mEq/L
   4.1 mEq/L
   12 mg/dL
   96 mEq/L
   137 mEq/L
   34.3 %
   21.1 K/uL
        [image002.jpg]
                            [**2194-12-25**]  09:02 PM
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
   WBC
   12.8
   13.3
   16.0
   21.1
   Hct
   31.2
   30.6
   32.5
   34.3
   Plt
   449
   432
   475
   464
   Cr
   0.3
   0.2
   0.3
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   TCO2
   31
   Glucose
   197
   126
   129
   106
   133
   149
   129
   162
   157
   Other labs: PT / PTT / INR:15.5/24.8/1.4, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 1 [**12-22**]).  Pt has had
   several loose bowels since admission, and continues to have loose stool
   through Flexiseal rectal tube.
   -          continue to monitor abdomen exam.
          -      Flagyl/vanc for minimum 2 week course. (likely [**12-22**]
   [**1-5**])
   .
   # Respiratory failure:   Continues to improve; now on 3L NC.  CXR shows
   interval improvement in RIGHT sided opacity since yesterday.
   -          Continue supplemental oxygen via facemask for saturations >
   92%
   -          Repeat abg to monitor for hypercarbia given somnolence on
   exam
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   -          Plan to diurese today in effort to improve RIGHT sided
   pleural effusion. Net negative 500 cc to 1 L.
   -          Hold off on  bronchoscopy for therapeutic/diagnostic post
   obs pna
   # CHF/Hemodynamics: Continue carvedilol and diuretics prn.  BP stable
   last 24 hours.  Has bilateral LE edema. Would consider restarting at
   home Spironlactone to avoid bolus effect of Lasix.
   -          Continue lisinopril and Carvedilol
   -          Monitor UOP and consider lasix to keep patient net negative
   500 cc to 1 L . Consider diamox with lasix given elevate bicarbonate
   # Afib/Supratherapeutic INR- Restarted digoxin.  Currently no evidence
   of toxicity. Holding coumadin for possible procedure. INR continues to
   be subtherapeutic.
   -          Restart coumadin today and monitor INR.
   -          Restart coumadin if no procedure today
   # Hypernatremia:  Resolved with free water via PEG tube.
   -          continue free water flushes to 150 q 6
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline.  Initial
   presentation likely secondary to underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn.
   # Dispotition: Possible transfer to the floor in PM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: ppi
   VAP: nonintubated
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-29 12:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains extubated.  Awake, opens eyes.
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-28**] 06:08 PM
   Vancomycin - [**2194-12-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2194-12-28**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-12-29**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.6
C (96
   HR: 92 (86 - 109) bpm
   BP: 116/54(66) {79/32(43) - 162/68(87)} mmHg
   RR: 22 (17 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 2 (1 - 2)mmHg
   Total In:
                                                                  2,254 mL
                                                                    687 mL
   PO:
   TF:
                                                                    960 mL
                                                                    160 mL
   IVF:
                                                                    204 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  2,874 mL
                                                                    700 mL
   Urine:
                                                                  2,874 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.53/45/91/36/13
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): , Movement: Purposeful left, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   464 K/uL
   157 mg/dL
   0.2 mg/dL
   36 mEq/L
   4.1 mEq/L
   12 mg/dL
   96 mEq/L
   137 mEq/L
   34.3 %
   21.1 K/uL
        [image002.jpg]
                            [**2194-12-26**]  04:14 AM
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
   WBC
   12.8
   13.3
   16.0
   21.1
   Hct
   31.2
   30.6
   32.5
   34.3
   Plt
   449
   432
   475
   464
   Cr
   0.2
   0.3
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   TCO2
   31
   39
   Glucose
   126
   129
   106
   133
   149
   129
   162
   157
   Other labs: PT / PTT / INR:15.5/24.8/1.4, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR -- improved aeration right lung.
   Assessment and Plan
   C. diff colitis, sepsis.
   PULMONARY EDEMA -- resolved.  Net diuresed.  s/p extubation.
   C. DIFF COLITIS -- clinically improving.  Recurrent.  Continue PO
   vanco, iv flagyl.
   RIGHT ATALECTASIS -- improved.  Underlying right hemidiaphragm
   paralysis.  Continue vigorous pulmonary toilet.
   A-FIB -- good rate control.  Monitor.
   s/p CVA -- right hemiparesis, aphasia.  Clinically stable.
   NUTRITIONAL SUPPORT -- TF via PEG.
   FLUIDS -- hypovolemia, mild.  Plan monitor I/O.  Continue net diuresis
   if CVP remains low.
   ALKALOSIS -- metabolic.  Provide Cl if continue diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2194-12-30 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - I/O - even at 1500 ; + 400 cc at MN
   - restarted coumadin
   - restarted TFs since no plan for procedure
   - Antihypertensives held in am [**2-8**] SBP 80s
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-28**] 06:08 PM
   Vancomycin - [**2194-12-30**] 01:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-30**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 78 (78 - 104) bpm
   BP: 103/42(56) {79/32(43) - 139/63(88)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 5 (5 - 17)mmHg
   Total In:
                                                                  1,330 mL
                                                                    407 mL
   PO:
   TF:
                                                                    560 mL
                                                                    278 mL
   IVF:
                                                                    290 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    360 mL
   Urine:
                                                                    510 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                     47 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.53/45/91/35/13
   PaO2 / FiO2: 228
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   480 K/uL
   11.5 g/dL
   145 mg/dL
   0.2 mg/dL
   35 mEq/L
   4.2 mEq/L
   14 mg/dL
   96 mEq/L
   136 mEq/L
   33.2 %
   19.7 K/uL
        [image002.jpg]
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
   WBC
   13.3
   16.0
   21.1
   19.7
   Hct
   30.6
   32.5
   34.3
   33.2
   Plt
   [**Telephone/Fax (3) 3420**]80
   Cr
   0.3
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   39
   Glucose
   129
   106
   133
   149
   129
   162
   157
   145
   Other labs: PT / PTT / INR:15.1/26.3/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 1 [**12-22**]).  Pt has had
   several loose bowels since admission, and continues to have loose stool
   through Flexiseal rectal tube.
   -          continue to monitor abdomen exam.
          -      Flagyl/vanc for minimum 2 week course. (likely [**12-22**]
   [**1-5**])
   .
   # Respiratory failure:   Continues to improve; now on 3L NC.  CXR shows
   interval improvement in RIGHT sided opacity since yesterday.
   -          Continue supplemental oxygen via facemask for saturations >
   92%
   -          Repeat abg to monitor for hypercarbia given somnolence on
   exam
   -          Consider Non-invasive ventilation if hypoxic
   -          daily cxr
   -          Plan to diurese today in effort to improve RIGHT sided
   pleural effusion. Net negative 500 cc to 1 L.
   -          Hold off on  bronchoscopy for therapeutic/diagnostic post
   obs pna
   # CHF/Hemodynamics: Continue carvedilol and diuretics prn.  BP stable
   last 24 hours.  Has bilateral LE edema. Would consider restarting at
   home Spironlactone to avoid bolus effect of Lasix.
   -          Continue lisinopril and Carvedilol
   -          Monitor UOP and consider lasix to keep patient net negative
   500 cc to 1 L . Consider diamox with lasix given elevate bicarbonate
   # Afib/Supratherapeutic INR- Restarted digoxin.  Currently no evidence
   of toxicity. Holding coumadin for possible procedure. INR continues to
   be subtherapeutic.
   -          Restart coumadin today and monitor INR.
   -          Restart coumadin if no procedure today
   # Hypernatremia:  Resolved with free water via PEG tube.
   -          continue free water flushes to 150 q 6
   -          fluid bolus  PRN with goal UOP >50cc/hr
   .
   # Unresponsiveness:   Pt minimally interactive at baseline.  Initial
   presentation likely secondary to underlying infection.
   -          cont to monitor
   # FEN: Replete lytes prn.
   # Dispotition: Possible transfer to the floor in PM
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-30**] 02:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-30 12:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Experienced transient episode of hypotension, responded to iv fluid.
   Denies abd pain.
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-28**] 06:08 PM
   Vancomycin - [**2194-12-30**] 01:14 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-12-30**] 12:04 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 69 (69 - 104) bpm
   BP: 99/47(60) {83/35(47) - 139/63(88)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 6 (4 - 17)mmHg
   Total In:
                                                                  1,330 mL
                                                                    713 mL
   PO:
   TF:
                                                                    560 mL
                                                                    475 mL
   IVF:
                                                                    290 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    910 mL
                                                                    610 mL
   Urine:
                                                                    510 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    420 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.5 g/dL
   480 K/uL
   145 mg/dL
   0.2 mg/dL
   35 mEq/L
   4.2 mEq/L
   14 mg/dL
   96 mEq/L
   136 mEq/L
   33.2 %
   19.7 K/uL
        [image002.jpg]
                            [**2194-12-26**]  11:53 PM
                            [**2194-12-27**]  04:16 AM
                            [**2194-12-27**]  11:06 AM
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
   WBC
   13.3
   16.0
   21.1
   19.7
   Hct
   30.6
   32.5
   34.3
   33.2
   Plt
   [**Telephone/Fax (3) 3420**]80
   Cr
   0.3
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   39
   Glucose
   129
   106
   133
   149
   129
   162
   157
   145
   Other labs: PT / PTT / INR:15.1/26.3/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   C. diff colitis, sepsis.
   PULMONARY EDEMA -- resolved.  Net diuresed.  s/p extubation.
   C. DIFF COLITIS -- clinically improving.  Recurrent.  Continue PO
   vanco, iv flagyl.
   RIGHT ATALECTASIS -- recurrent.  Underlying right hemidiaphragm
   paralysis.  Continue vigorous pulmonary toilet.  Consider bronchoscopy
   if unable to resolve with chest physiotherapy (but would likely require
   intubation).
   A-FIB -- good rate control.  Monitor.
   s/p CVA -- right hemiparesis, aphasia.  Clinically stable.
   NUTRITIONAL SUPPORT -- TF via PEG.
   FLUIDS -- hypovolemia, mild.  Plan monitor I/O.  Continue net diuresis
   if CVP remains low.
   ALKALOSIS -- metabolic.  Provide Cl if continue diuresis.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2194-12-30**] 02:02 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2194-12-31 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   While being turned, patient became acutely hypoxic, turned blue.
   Suctioning did not help, patient was very difficult to bag, so stat
   anesthesia was called and patient was intubated.  Then became
   hypotensive, started on levophed.  Titrated down but not off.
   Attempted A-line but unsuccessful.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-31**] 02:29 AM
   Metronidazole - [**2194-12-31**] 02:29 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-12-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 93 (69 - 124) bpm
   BP: 123/47(64) {51/38(29) - 208/87(119)} mmHg
   RR: 12 (0 - 33) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 4 (4 - 19)mmHg
   Total In:
                                                                  2,910 mL
                                                                    727 mL
   PO:
   TF:
                                                                    890 mL
   IVF:
                                                                  1,780 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    118 mL
   Urine:
                                                                  1,075 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/47/94.[**Numeric Identifier 299**]/30/6
   Ve: 4.6 L/min
   PaO2 / FiO2: 157
   Physical Examination
   GEN: elderly female, intubated, sedated.
   HEENT: Sclera anicteric
   NECK: No JVD,  no cervical lymphadenopathy
   COR: RRR, no appreciable murmur
   PULM: Good air movement bilaterally on anterior exam
   ABD: Soft, NT, ND, +BS, no HSM, no masses; PEG in place with no
   surrounding erythema or drainage
   EXT: trace upper 1+ edema,
   NEURO: Arouses to painful stimulit. Plantar reflex downgoing on L and
   upgoing on R.
   SKIN: No jaundice, cyanosis, or gross dermatitis.
   Labs / Radiology
   504 K/uL
   9.9 g/dL
   151 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   30.7 %
   22.2 K/uL
        [image002.jpg]
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
   WBC
   16.0
   21.1
   19.7
   22.2
   Hct
   32.5
   34.3
   33.2
   30.7
   Plt
   [**Telephone/Fax (3) 3444**]04
   Cr
   0.2
   0.3
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   39
   37
   33
   Glucose
   133
   149
   129
   162
   157
   145
   151
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   .
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:   Had to be re-intubated last night, likely [**2-8**]
   mucous plugging given acute presentation and difficulty bag-mask
   ventilation.  Once on machine, lung aeration much improved.  Suctioning
   also continuing to help. Bronch this morning did not show any
   endobronchial lesion that could have been obstructing.   Underlying
   reason for increased secretions is unclear (though inability to clear
   secretions is [**2-8**] CVA).  Given her increasing leukocytosis, increased
   secretions and recent intubation, will cover her for VAP:
   -empiric Vanco/Cefepime (patient penicillin allergic)
   - after bronch, wean vent as tolerated starting with decreasing Fi02
   - VAP precautions
   .
   # Hypotension: Cause unclear, happened after intubation which made
   medication-related the most likely however her inability to wean
   overnight makes this less likely.  Sepsis is a possibility given her
   WBC count and hypothermia. Abdomen benign so unlikely complication of
   C. Diff.
   -u/a and urine cultures
   -blood cultures
   -Bolus IVF today then try to wean levophed
   .
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 8, day one [**12-22**]).  Pt
   continues to have loose stool through Flexiseal rectal tube.
    -     PO Flagyl/vanc for minimum 2 week course, but likely will
   require longer course.
   # CHF/Hemodynamics: Given hypotension, holding lisinopril, carvedilol,
   lasix.  Patient given IVF last night so will monitor for Volume
   overload today.
   .
   # Afib - On digoxin. Held coumadin last night given procedure this AM.
   INR low 1.3 (goal [**2-9**])
   -          restart coumadin, continue digoxin
   # Hypernatremia:  Resolved with free water via PEG tube.
   -          continue free water flushes to 150 q 6
    .
   # FEN: Restart tube feeds, replete lytes prn.
   .
   #Code: Full
   .
   #Prophyaxis:
   DVT: Sub Q heparin
   Stress ulcer: PPI
   #Full Code
   # Disposition: To ICU pending improvement in respiratory status.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-12-31 09:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 RESPIRATORY ARREST - At [**2194-12-30**] 10:10 PM
 INVASIVE VENTILATION - START [**2194-12-30**] 10:15 PM
   Emergently intubated early this AM for respiratory distress, hypoxemia.
   Following intubation, copious secretions suctioned via ETT.
   Bronchoscopy without evidence for endobronchial lesion.
   Remains on vasopressor.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2194-12-31**] 02:29 AM
   Metronidazole - [**2194-12-31**] 02:29 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-12-31**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2194-12-31**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 88 (69 - 124) bpm
   BP: 120/41(59) {51/38(29) - 208/87(119)} mmHg
   RR: 12 (0 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
   CVP: 4 (4 - 19)mmHg
   Total In:
                                                                  2,910 mL
                                                                    780 mL
   PO:
   TF:
                                                                    890 mL
   IVF:
                                                                  1,780 mL
                                                                    780 mL
   Blood products:
   Total out:
                                                                  1,575 mL
                                                                    148 mL
   Urine:
                                                                  1,075 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,335 mL
                                                                    632 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/47/94.[**Numeric Identifier 299**]/30/6
   Ve: 4.6 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.9 g/dL
   504 K/uL
   151 mg/dL
   0.3 mg/dL
   30 mEq/L
   4.0 mEq/L
   12 mg/dL
   99 mEq/L
   134 mEq/L
   30.7 %
   22.2 K/uL
        [image002.jpg]
                            [**2194-12-27**]  04:16 PM
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
   WBC
   16.0
   21.1
   19.7
   22.2
   Hct
   32.5
   34.3
   33.2
   30.7
   Plt
   [**Telephone/Fax (3) 3444**]04
   Cr
   0.2
   0.3
   0.2
   0.2
   0.2
   0.2
   0.3
   TCO2
   39
   37
   33
   Glucose
   133
   149
   129
   162
   157
   145
   151
   Other labs: PT / PTT / INR:14.7/26.2/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Respiratory failure; C. diff colitis, sepsis.
   RESPIRATORY FAILURE -- attributed to significant right atalectasis due
   to secretions & mucus plug.  Now improved, with evidence for
   reexpansion of right lung.  Bronchoscopy without evidence for
   endobronchial lesion.  Underlying right hemidiaphragm paralysis.
   Continue mechanical ventilation.
   HYPOTENSION -- possible related to post-op pharmacological effects, but
   concern for hypovolemia or sepsis.  Monitor on empirical
   antimicrobials.  Limit meds that contribute to hypotension.  Possible
   evolution of pneumonia (due to poor ability to handle secretions).
   PULMONARY EDEMA -- resolved.  Net diuresed.
   C. DIFF COLITIS -- clinically improving.  Recurrent.  Continue PO
   vanco, iv flagyl.  Check KUB to assess for colonic
   RIGHT ATALECTASIS -- recurrent.  Underlying right hemidiaphragm
   paralysis.  Continue vigorous pulmonary toilet.  Consider bronchoscopy
   if unable to resolve with chest physiotherapy (but would likely require
   intubation).
   A-FIB -- good rate control.  Monitor.  continue coumadin.
   s/p CVA -- right hemiparesis, aphasia.  Clinically stable.
   NUTRITIONAL SUPPORT -- TF via PEG.
   FLUIDS -- hypovolemia, mild.  Plan monitor I/O.  Continue net diuresis
   if CVP remains low.
   ALKALOSIS -- metabolic.  Imporved.  Provide Cl if continue diuresis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2195-01-01 08:14:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, PNA
   24 Hour Events:
   - s/p bronch => no focal obstruction
   Hypotension
   - stopped spiranolactone
   - changed vent from AC to CPAP w and w/o PS: PS 8, FiO2 down to 0.4
   - fent weaned from 50 to 25, midaz weaned from 1.0 to 0.5
   - levephed weaned to 0.1
   - 500 cc NS bolus for U/O of 20 ccs/hr => increased to ...
   Labs:
   - f/u sputum - no organisms
   - f/u urine - pending
   - blood cx - NGTD
   Meds:
   - restarted coumadin tomorrow, started heparin SQ
   - restarted TFs
   - added Vancomycin and Cefepime for VAP coverage
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2194-12-31**] 06:11 PM
   Cefipime - [**2194-12-31**] 10:00 PM
   Vancomycin - [**2195-1-1**] 02:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2194-12-31**] 08:00 AM
   Coumadin (Warfarin) - [**2194-12-31**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2194-12-31**] 10:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:unable to obtain [**2-8**] pt unresponsive
   Flowsheet Data as of  [**2195-1-1**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 90 (77 - 96) bpm
   BP: 113/40(58) {89/32(49) - 168/90(108)} mmHg
   RR: 0 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 6 (5 - 13)mmHg
   Total In:
                                                                  2,792 mL
                                                                  1,712 mL
   PO:
   TF:
                                                                    428 mL
                                                                    334 mL
   IVF:
                                                                  2,113 mL
                                                                  1,378 mL
   Blood products:
   Total out:
                                                                    537 mL
                                                                    145 mL
   Urine:
                                                                    537 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,255 mL
                                                                  1,567 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 401 (378 - 401) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at right base)
   Abdominal: Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   395 K/uL
   9.4 g/dL
   151 mg/dL
   0.2 mg/dL
   29 mEq/L
   4.0 mEq/L
   11 mg/dL
   103 mEq/L
   136 mEq/L
   29.1 %
   18.5 K/uL
        [image002.jpg]
                            [**2194-12-28**]  04:03 AM
                            [**2194-12-28**]  04:36 PM
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
                            [**2195-1-1**]  05:35 AM
   WBC
   16.0
   21.1
   19.7
   22.2
   18.5
   Hct
   32.5
   34.3
   33.2
   30.7
   29.1
   Plt
   [**Telephone/Fax (3) 3444**]04
   395
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   0.3
   0.2
   TCO2
   39
   37
   33
   Glucose
   149
   129
   162
   157
   145
   151
   151
   Other labs: PT / PTT / INR:17.7/40.8/1.6, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   .
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:   Had to be re-intubated last night, likely [**2-8**]
   mucous plugging given acute presentation and difficulty bag-mask
   ventilation.  Once on machine, lung aeration much improved.  Suctioning
   also continuing to help. Bronch this morning did not show any
   endobronchial lesion that could have been obstructing.   Underlying
   reason for increased secretions is unclear (though inability to clear
   secretions is [**2-8**] CVA).  Given her increasing leukocytosis, increased
   secretions and recent intubation, will cover her for VAP:
   -empiric Vanco/Cefepime (patient penicillin allergic)
   - after bronch, wean vent as tolerated starting with decreasing Fi02
   - VAP precautions
   .
   # Hypotension: Cause unclear, happened after intubation which made
   medication-related the most likely however her inability to wean
   overnight makes this less likely.  Sepsis is a possibility given her
   WBC count and hypothermia. Abdomen benign so unlikely complication of
   C. Diff.
   -u/a and urine cultures
   -blood cultures
   -Bolus IVF today then try to wean levophed
   .
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 8, day one [**12-22**]).  Pt
   continues to have loose stool through Flexiseal rectal tube.
    -     PO Flagyl/vanc for minimum 2 week course, but likely will
   require longer course.
   .
   # CHF/Hemodynamics: Given hypotension, holding lisinopril, carvedilol,
   lasix.  Patient given IVF last night so will monitor for Volume
   overload today.
   .
   # Afib - On digoxin. Held coumadin last night given procedure this AM.
   INR low 1.3 (goal [**2-9**])
   -          restart coumadin, continue digoxin
   .
   # Hypernatremia:  Resolved with free water via PEG tube.
   -          continue free water flushes to 150 q 6
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-1-1**] 01:14 AM 41.[**Telephone/Fax (5) 3474**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2195-01-02 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Weaned off Levophed as of 1:30p
   - d/c'd cefepime [**2-8**] likely drug rash on torso and started [**Last Name (un) **]
   -Cultures NGTD
   -Tachy in evening to high 110's. Tried incr fentanyl gtt and 500cc
   bolus but HR did not respond. Pt looking like working a bit harder to
   breath. reted on CMV overnight and patient improved.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2195-1-1**] 10:00 AM
   Meropenem - [**2195-1-2**] 02:00 AM
   Vancomycin - [**2195-1-2**] 02:00 AM
   Metronidazole - [**2195-1-2**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-1-1**] 08:00 AM
   Coumadin (Warfarin) - [**2195-1-1**] 04:15 PM
   Fentanyl - [**2195-1-1**] 05:05 PM
   Heparin Sodium (Prophylaxis) - [**2195-1-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-2**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 103 (88 - 115) bpm
   BP: 99/39(52) {83/28(42) - 169/61(132)} mmHg
   RR: 18 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 11 (4 - 13)mmHg
   Total In:
                                                                  4,844 mL
                                                                    929 mL
   PO:
   TF:
                                                                  1,015 mL
                                                                    279 mL
   IVF:
                                                                  3,084 mL
                                                                    450 mL
   Blood products:
   Total out:
                                                                    396 mL
                                                                    116 mL
   Urine:
                                                                    396 mL
                                                                    116 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,448 mL
                                                                    813 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 446 (379 - 479) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.5 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal),
   Peripheral Vascular: (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at right base)
   Abdominal: Non-tender, Bowel sounds present, No(t) Distended
   Skin:  Warm, erythematous, [**Doctor Last Name 170**] rash over neck, torso, legs and back.
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Opens eyes
   to voice.
   Labs / Radiology
   348 K/uL
   9.2 g/dL
   152 mg/dL
   0.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   11 mg/dL
   98 mEq/L
   130 mEq/L
   28.1 %
   19.1 K/uL
        [image002.jpg]
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
                            [**2195-1-1**]  05:35 AM
                            [**2195-1-2**]  12:05 AM
                            [**2195-1-2**]  03:54 AM
   WBC
   21.1
   19.7
   22.2
   18.5
   19.1
   Hct
   34.3
   33.2
   30.7
   29.1
   28.1
   Plt
   [**Telephone/Fax (3) 3486**]95
   348
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   TCO2
   39
   37
   33
   Glucose
   162
   157
   145
   151
   151
   118
   152
   Other labs: PT / PTT / INR:20.9/114.5/2.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:  Interval improvement in CXR, but patient
   unable to stay on PS and back on CMV overnight to rest.  Had to be
   re-intubated [**12-30**], likely [**2-8**] mucous plugging given acute presentation
   and difficulty bag-mask ventilation. Bronch [**12-31**] did not show any
   endobronchial lesion that could have been obstructing.   Underlying
   reason for increased secretions is unclear (though inability to clear
   secretions is [**2-8**] CVA).  Given her increased leukocytosis, increased
   secretions and recent intubation, possible pneumonia, need to cover for
    VAP.
   -Continue Vanco, Meropenem. .
   - PS  today as tolerated
   - VAP precautions
   - Will try to keep net negative for optimization of respiratory status.
   .
   # Rash: Appearance consistenent with drug rash,  most likely cefepime
   as patient has known penicillin allergy.
   -benadryl PRN for symptoms
   -d/c
d cefepime yesterday, expect rash to last a few days.
   .
   # Hypotension: resolved.
   .
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 11, day one [**12-22**]).
   Pt continues to have loose stool through Flexiseal rectal tube but
   abdominal exam is benign, no signs of blood in stool or other concerns
   for worsening colitis..
    -     PO Flagyl/vanc for minimum 2 week course, but likely will
   require longer course.
   .
   #Coagulopathy: INR therapeutic but PTT too high.  Possibly secondary to
   SQ heparin.
   -hold SQ heparin and re-check PTT in AM
   -INR at goal, continue coumadin
   .
   # Hyponatremia:  Patient previously with hypernatremia, was given free
   water boluses, now sodium is 130.
   -hold free water boluses, check sodium in AM
   # CHF/Hemodynamics: Given recent hypotension, holding lisinopril,
   carvedilol, lasix. Patient has been net positive for [**Last Name (LF) **], [**First Name3 (LF) **] will
   monitor.
   -Goal net even to -1L today.
   .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  INR at goal
   -          cont coumadin, continue digoxin
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-1-1**] 11:55 PM 41.[**Telephone/Fax (5) 3474**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: pneumoboots, coumadin
   Stress ulcer: PPI
   VAP:  ABX
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-02 11:26:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Episode of tachycardia last PM, possibly related to aggitation.
   Vasopressors d/c'd yesterday.
   Developed rash on torso, arms and legs --> persistent.  Cefopime d/c'd.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Aphasia
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2195-1-1**] 10:00 AM
   Vancomycin - [**2195-1-2**] 02:00 AM
   Metronidazole - [**2195-1-2**] 02:00 AM
   Meropenem - [**2195-1-2**] 08:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2195-1-1**] 04:15 PM
   Fentanyl - [**2195-1-1**] 05:05 PM
   Heparin Sodium (Prophylaxis) - [**2195-1-1**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-1-2**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 100 (93 - 115) bpm
   BP: 110/42(57) {83/28(42) - 169/61(132)} mmHg
   RR: 10 (7 - 22) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 4 (4 - 13)mmHg
   Total In:
                                                                  4,844 mL
                                                                  1,391 mL
   PO:
   TF:
                                                                  1,015 mL
                                                                    465 mL
   IVF:
                                                                  3,084 mL
                                                                    666 mL
   Blood products:
   Total out:
                                                                    396 mL
                                                                    216 mL
   Urine:
                                                                    396 mL
                                                                    216 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,448 mL
                                                                  1,175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 511 (379 - 511) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: ///26/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   348 K/uL
   152 mg/dL
   0.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   11 mg/dL
   98 mEq/L
   130 mEq/L
   28.1 %
   19.1 K/uL
        [image002.jpg]
                            [**2194-12-29**]  12:30 AM
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
                            [**2195-1-1**]  05:35 AM
                            [**2195-1-2**]  12:05 AM
                            [**2195-1-2**]  03:54 AM
   WBC
   21.1
   19.7
   22.2
   18.5
   19.1
   Hct
   34.3
   33.2
   30.7
   29.1
   28.1
   Plt
   [**Telephone/Fax (3) 3486**]95
   348
   Cr
   0.2
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   TCO2
   39
   37
   33
   Glucose
   162
   157
   145
   151
   151
   118
   152
   Other labs: PT / PTT / INR:20.9/114.5/2.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:6.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Respiratory failure; C. diff colitis, sepsis.
   RESPIRATORY FAILURE -- attributed to significant right atalectasis due
   to secretions & mucus plug.  Now improved, with evidence for
   reexpansion of right lung.  Bronchoscopy without evidence for
   endobronchial lesion.  Underlying right hemidiaphragm paralysis.
   Continue mechanical ventilation.  Need to consider Trach if secretions
   remain problem and acceptable to patient, if unable to proceed to
   extubation or if fails extubation.
   RIGHT ATALECTASIS -- recurrent.  Underlying right hemidiaphragm
   paralysis.  Continue vigorous pulmonary toilet.  Consider bronchoscopy
   if unable to resolve with chest physiotherapy (but would likely require
   intubation).
   HYPOTENSION -- resolved.  Possible sepsis.  Monitor MAP.
   PULMONARY EDEMA -- resolved.  Net diuresed. Euvolemic.
   C. DIFF COLITIS -- clinically improving.  Recurrent.  Continue PO
   vanco, iv flagyl.  Check KUB to assess for colonic
   A-FIB -- good rate control.  Monitor.  continue coumadin.
   s/p CVA -- right hemiparesis, aphasia.  Clinically stable.
   COAGULOPATHY
 coumadin, antimicrobials and nutritional effects.  Hold
   heparin.
   NUTRITIONAL SUPPORT -- TF via PEG.
   FLUIDS -- hypovolemia, mild.  Plan monitor I/O.  Continue net diuresis
   if CVP remains low.
   ALKALOSIS -- metabolic.  Imporved.  Provide Cl if continue diuresis.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-1-1**] 11:55 PM 41.[**Telephone/Fax (5) 3474**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:  Discussed medical update with daughter.
   [**Name (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending addendum:
   Family meeting.  Extensive discussion with daughter and son-in-law.
   Updated medical conditon, answered all questions.  Daugher (identified
   as HCP) agrees with current level of care, agrees to proceed with
   reintubation if necessary in future (in event of failed extubation) and
   agrees to proceed with tracheotomy tube if necessary and indicated.
   Daughter also confirms full code status.
   ------ Protected Section Addendum Entered By:[**Name (NI) 275**] [**Last Name (NamePattern1) 276**], MD
   on:[**2195-1-2**] 18:49 ------

2195-01-03 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -held SQ heparin for increased PTT down to 37.4
   -held free water boluses [**2-8**] hyponatremia, but NA remains 130 this AM,
   sent urine lytes
   -Vent: On PS, became apneic overnight, back on AC this AM.
   - lasix 40IVx1 goal net even: good UOP but still volume up
   -family mtg-no change, want everything, trach if needed, re-intubation
   if needed, etc.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2195-1-1**] 10:00 AM
   Meropenem - [**2195-1-3**] 02:17 AM
   Vancomycin - [**2195-1-3**] 02:17 AM
   Metronidazole - [**2195-1-3**] 02:17 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-1-2**] 05:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 96 (92 - 108) bpm
   BP: 92/35(48) {87/35(48) - 137/63(76)} mmHg
   RR: 16 (6 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 9 (2 - 15)mmHg
   Total In:
                                                                  2,460 mL
                                                                    873 mL
   PO:
   TF:
                                                                    960 mL
                                                                    290 mL
   IVF:
                                                                  1,060 mL
                                                                    523 mL
   Blood products:
   Total out:
                                                                  1,421 mL
                                                                    494 mL
   Urine:
                                                                  1,421 mL
                                                                    494 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,039 mL
                                                                    379 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 595 (511 - 595) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: ///29/
   Ve: 4.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   351 K/uL
   8.8 g/dL
   158 mg/dL
   0.2 mg/dL
   29 mEq/L
   3.8 mEq/L
   12 mg/dL
   96 mEq/L
   130 mEq/L
   26.6 %
   17.7 K/uL
        [image002.jpg]
                            [**2194-12-29**]  03:57 AM
                            [**2194-12-29**]  08:26 AM
                            [**2194-12-30**]  04:29 AM
                            [**2194-12-30**]  01:00 PM
                            [**2194-12-31**]  12:12 AM
                            [**2194-12-31**]  03:50 AM
                            [**2195-1-1**]  05:35 AM
                            [**2195-1-2**]  12:05 AM
                            [**2195-1-2**]  03:54 AM
                            [**2195-1-3**]  03:58 AM
   WBC
   21.1
   19.7
   22.2
   18.5
   19.1
   17.7
   Hct
   34.3
   33.2
   30.7
   29.1
   28.1
   26.6
   Plt
   [**Telephone/Fax (3) 3486**]95
   348
   351
   Cr
   0.2
   0.2
   0.3
   0.2
   0.2
   0.2
   0.2
   TCO2
   39
   37
   33
   Glucose
   157
   145
   151
   151
   118
   152
   158
   Other labs: PT / PTT / INR:24.0/37.4/2.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.2 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:  Given her increased leukocytosis, increased
   secretions and recent intubation, possible pneumonia we are covering
   for  VAP. Patient did well on PS, but then required AC after tiring
   out..  Wanted to make her net negative before extubation, but patient
   becomes borderline hypotensive with lasix.  Patient
s CXR this morning
   again shows right lung collapse which has now become a chronic problem
   whenever pressure is decreased.  Patient is not likely to come off vent
   soon and should be evaluated for a trach early next week.
   -Continue Vanco, Meropenem (day [**4-15**])
   -Vanco trough tomorrow AM
   - PS  today as tolerated but consider early trach soon. [**Month (only) 8**] talk to IP
   on Monday.
   - VAP precautions
   - daily
   -Goal is  net negative 1L for optimization of respiratory status but no
   Lasix today [**2-8**] borderline hypotension (can use decreased dose if
   necessary-20IV)
   .
   # Rash: Appearance consistenent with drug rash,  most likely cefepime
   as patient has known penicillin allergy.  Unchanged since yesterday
   -d/c
d cefepime two days ago, expect rash to last a few days.
   .
   # Hypotension: Patient with boderline hypotension (SBPs 86-90s) after
   lasix diursesis, stable, not tachycardic.
   -bolus for SBP<85
   .
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day 12, day one [**12-22**]).
   Pt continues to have loose stool through Flexiseal rectal tube but
   abdominal exam is benign, no signs of blood in stool or other concerns
   for worsening colitis.  Family brought in probiotics.
    -     PO Flagyl/vanc for minimum 2 week course, but likely will
   require longer course.
   - probiotics via PEG.
   .
   #Coagulopathy: PTT was too high with SQ heparin, normalized with 1 day
   off.
   -restart SQ heparin at lower dose (5000 [**Hospital1 **]) and re-check PTT in PM
   .
   # Hyponatremia:  Patient previously with hypernatremia, now
   hyponatremia x 2 days, likely due to too much free water.  Urine lytes
   unrevealing.
   -free water fluid restriction
   -check sodium PM
   .
   # CHF/Hemodynamics: Given recent hypotension, holding lisinopril,
   carvedilol, lasix. Patient has been net positive for [**Last Name (LF) **], [**First Name3 (LF) **] will
   monitor.
   -Goal net even to -1L today.
   .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  INR at goal -2.3
   -                continue digoxin
   -                check dig level
   -                D/C coumadin for possible trach early in the week
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-1-3**] 01:14 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM: PICC requested, will then D/C IJ.
   Prophylaxis:
   DVT: pneumoboots, SQ heparin
   Stress ulcer: PPI
   VAP:  prophylaxis, ABX
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 83 yo F w/ dementia, prior CVA with residual
   aphasia and R hemiparesis, chf, a-fib presents with recurrent c diff,
   demand ischemia, unresponsiveness with intubation for airway control
   s/p failed extubation for mucus plugging/atelectasis.
        Increased WOB overnight on PS --> back to ACV.  Diuresed gently
   with good urine outpt. Free water held [**2-8**] development of hyponatremia.
   Exam notable for Tm AF BP 87/35 min HR 90's RR 12 on ACV
   400/12/5/40-->7.42/46/115.
   Thin elderly F, awake, unable to follow commands, coarse BS, [**Last Name (un) **],
   benign abd, + dep edema, R weakness (baseline)
   Labs notable for WBC 17.1 (19) K, HCT 26.6 (28.1) , na 130 (stable), K+
   3.8 , Cr 0.2,  lactate 3.1, INR 2.3
   CXR with ET and R IJ in position, rotated, RLL collapse
   Primary issues include:
     * Resp failure
   mucus plugging/atelectasis, secretions (no endobronchial lesion by
   bronch)
     * pna
     * volume overload
     * c diff colitis (recurrent)
     * drug rash
presumed from cefepime, improving
     * leukocytosis--improving slowly
     * hyponatremia
     * CVA
r hemeparesis, aphasia
     * dementia
   Agree with plan to continue current vent support while optimizing from
   resp status standpoint.  Has had intermittent mucus plugging and
   atelectasis and appears unlikely to wean from vent. Prior CVA and poor
   cough likely contributing to this and known R hemid paralysis. Family
   mtg yesterday and family is agreeable to trach.  Will consult IP
   service.  Continue chest pt, pulm toilet, sx and nebs.  Will complete
   (day [**4-15**]) course antibx (vanco/[**Last Name (un) **]) for presumed pna. Drug rash slowly
   improving since switching from cefepime. Continue PO vanco/IV flagyl
   for c-diff
will treat X 2 wks after additional antibx completed. Would
   hold coumadin for  trach and continue sq hep ([**Hospital1 **] dosing) for dvt
   prophy.  Continue digoxin for a-fib--would recheck level.
   Hyponatremia
suspect [**2-8**]  aggressive free water bolus in setting of
   hypernatremia though lung process may contribnute.  Appears total body
   vol up but intravascularly dry.  Free water restrict and monitor.  Has
   RIJ for central access
Will consult for picc line placement.  Remainder
   of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2195-1-3**] 02:04 PM ------

2195-01-04 07:41:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
 BLOOD CULTURED - At [**2195-1-3**] 08:40 PM
    1 of 2 sent
 EKG - At [**2195-1-3**] 08:40 PM
 URINE CULTURE - At [**2195-1-3**] 08:40 PM
   - PM Na 131 w/ free h20 restriction
   - rpt ABG 7.43/45/121, lactate 2.0 down from 3.1
   - episode of hypotension (SBP < 70). Likely hypovolemia from decreased
   fluid intake, decreased BP tone. no T, but must r/o sepsis.
     given 500 cc NS bolus x1 BP back to 120s/50s
     EKG => AF at 105 bpms w/ no ischemic changes
     CBC, blood, urine cx's
     CXR => improved ventilation, no PTX or acute volume overload.
     got vanc trough, 500 mg IV vanc x1.
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Cefipime - [**2195-1-1**] 10:00 AM
   Meropenem - [**2195-1-4**] 02:36 AM
   Vancomycin - [**2195-1-4**] 02:36 AM
   Metronidazole - [**2195-1-4**] 02:36 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-1-3**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2195-1-3**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to respond [**2-8**] aphasia
   Flowsheet Data as of  [**2195-1-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 97 (88 - 114) bpm
   BP: 111/53(66) {81/32(43) - 137/63(81)} mmHg
   RR: 12 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 57 Inch
    CVP: 11 (5 - 23)mmHg
   Total In:
                                                                  3,279 mL
                                                                    512 mL
   PO:
   TF:
                                                                    962 mL
                                                                    300 mL
   IVF:
                                                                  2,162 mL
                                                                    213 mL
   Blood products:
   Total out:
                                                                    976 mL
                                                                    175 mL
   Urine:
                                                                    976 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,303 mL
                                                                    337 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/45/121/29/5
   Ve: 5.4 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   diminished on R side )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Warm, Rash: erythematous over entire trunk, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone:
   Increased
   Labs / Radiology
   374 K/uL
   9.0 g/dL
   117 mg/dL
   0.2 mg/dL
   29 mEq/L
   4.2 mEq/L
   12 mg/dL
   99 mEq/L
   133 mEq/L
   27.3 %
   14.6 K/uL
        [image002.jpg]
                            [**2194-12-31**]  03:50 AM
                            [**2195-1-1**]  05:35 AM
                            [**2195-1-2**]  12:05 AM
                            [**2195-1-2**]  03:54 AM
                            [**2195-1-3**]  03:58 AM
                            [**2195-1-3**]  07:35 AM
                            [**2195-1-3**]  01:54 PM
                            [**2195-1-3**]  04:30 PM
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
   WBC
   22.2
   18.5
   19.1
   17.7
   15.3
   14.6
   Hct
   30.7
   29.1
   28.1
   26.6
   27.0
   27.3
   Plt
   [**Telephone/Fax (2) 3579**]
   Cr
   0.3
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   31
   Glucose
   151
   151
   118
   152
   158
   119
   117
   Other labs: PT / PTT / INR:21.5/38.7/2.0, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Fibrinogen:479 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.7 g/dL, LDH:360
   IU/L, Ca++:7.2 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:  Given her increased leukocytosis, increased
   secretions and recent intubation, possible pneumonia we are covering
   for  VAP. Patient
s CXR this morning again shows right lung collapse
   which has now become a chronic problem whenever pressure is decreased.
   Patient is not likely to come off vent soon and should be evaluated for
   a trach by IP tomorrow. Dtr is HCP and should be contact[**Name (NI) **] before
   procedure but in past trach is consistent with her wishes
   -Continue Meropenem (day [**5-15**])
   -Vanco level today persistently therapeutic to 23.3
   - PS  today as tolerated
   -Talk to IP tomorrow re trach
   - VAP precautions
   .
   # Rash: Appearance consistenent with drug rash,  most likely cefepime
   as patient has known penicillin allergy.  Perhaps slightly better
   today. ? If could be [**2-8**] Vanco- have stopped dosing this but is
   persistently supratherapeutic
   -d/c
d cefepime [**1-1**], expect rash to last a few days
   .
   # Hypotension: Patient with hypotension in evening [**1-3**] resolved after
   500cc NS bolus.
   -bolus for SBP<85
   .
   # C Diff colitis:  On Flagyl/Vanc for cdiff (day one [**12-22**]).  Pt
   continues to have loose stool through Flexiseal rectal tube but
   abdominal exam is benign, no signs of blood in stool or other concerns
   for worsening colitis.
    -     PO Flagyl/vanc for minimum 2 week course after d/c other abx.
   - probiotics via PEG- provided by family.
   .
   #Coagulopathy: PTT was too high with SQ heparin, normalized with 1 day
   off. Hep SQ restarted [**1-3**].
   -contt SQ heparin at 5000 [**Hospital1 **]
   .
   # Hyponatremia:  Patient previously with hypernatremia, then
   hyponatremia [**1-2**] and [**1-3**], likely due to too much free water.
   Currently Na nl at 133
   -cont free water fluid restriction
   -check sodium PM
   .
   # CHF/Hemodynamics: Given recent hypotension, holding lisinopril,
   carvedilol, lasix. Patient has been net positive 16 L for [**Last Name (LF) **], [**First Name3 (LF) **] will
   monitor.
   .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  INR at goal -2.3
   -                continue digoxin
   -                check dig level
   -                D/C
d coumadin for possible trach tomorrow
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2195-1-4**] 01:01 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 83 yo F w/ dementia, prior CVA with residual
   aphasia and R hemiparesis, chf, a-fib presents with recurrent c diff
   colitis, demand ischemia, unresponsiveness with intubation for airway
   control now s/p failed extubation for mucus plugging/atelectasis.
     Transient hypotension to 80's sys last night--> responded to IVF
   bolus.
   Exam notable for Tm AF BP 81-137/32-63 min HR 88-114 RR 12 on ACV
   400/12/5/40-->7.43/45/121.
   Thin elderly F, awake, but unable to follow commands, coarse BS, [**Last Name (un) **],
   benign abd, + dep edema, R weakness (baseline), trunkal and ext rash
   more confluent, slightly less erythematous
   Labs notable for WBC 14 (17.1<-19),  HCT 27.3 , na 133 (130),  K+ 3.8 ,
   Cr 0.2,  lactate 2.0  INR 2.0
   CXR with ET and R IJ in position, rotated, increased atelectasis R base
   and L, increased opacity both lungs, small lung volumes, R hemid
   elevation (chronic)
   Primary issues include:
     * Resp failure
   mucus plugging/atelectasis, secretions (no endobronchial lesion by
   bronch)
     * pna
     * volume overload
     * c diff colitis (recurrent)
     * drug rash
presumed from cefepime, improving slowly
     * leukocytosis--improving slowly
     * hyponatremia
     * CVA
r hemeparesis, aphasia
     * dementia
   Agree with plan to continue current vent support while attempting to
   optimize from resp status standpoint.  Pt continues to have
   intermittent mucus plugging and atelectasis on imaging and during wean
   attemtps and appears unlikely to wean from vent. Prior CVA and poor
   cough, known R hemid paralysis all likely contributing to this. Family
   is agreeable to trach.  Will consult IP service.  Continue chest pt,
   pulm toilet, sx and nebs given worsening atelectasis on cxr this am.
   Pt is tolerating well with no change in resp status or O2 sats.  Will
   consider bronch if no improvement or clincial change.  Will complete
   (day [**5-15**]) course [**First Name9 (NamePattern2) 3593**] [**Last Name (un) 350**]/vanco for presumed pna, following vanco
   levels for redosing. Drug rash slowly improving since switching from
   cefepime, though also concern that this may be [**2-8**] vanco.  Would check
   urine and serum eos. Continue PO vanco/IV flagyl for c-diff
 treat X 2
   wks after additional [**Month/Day (2) 3593**] completed. Holding coumadin for trach and
   continuing sq hep for dvt prophy and would start gtt hep given CHADs
   score once INR < 2.  Continue digoxin for a-fib--will recheck level.
   Hyponatremia
suspect [**2-8**]  aggressive free water bolus in setting of
   hypernatremia--improving with free water restriction.   Has RIJ for
   central access--unable to place bedside picc will need IR placement.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2195-1-4**] 17:54 ------

2195-01-05 08:20:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
   -Need to call IP to consider trach placing in am
   -Urine eos pending
   -PICC ordered in IR for Mon
   -cont free water restriction for Na still 131 in pm- urine lytes
   ordered
   -Vanco still supratherapeutic at 23.3. Also on flagyl and vanco PO and
   [**Last Name (un) **]
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2195-1-5**] 02:00 AM
   Vancomycin - [**2195-1-5**] 02:00 AM
   Metronidazole - [**2195-1-5**] 02:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2195-1-4**] 08:15 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: pt non-verbal, unresponsive today
   Flowsheet Data as of  [**2195-1-5**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.5
C (97.7
   HR: 114 (94 - 122) bpm
   BP: 131/56(72) {96/37(55) - 146/66(83)} mmHg
   RR: 16 (0 - 16) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 8 (8 - 8)mmHg
   Total In:
                                                                  1,778 mL
                                                                    255 mL
   PO:
   TF:
                                                                    967 mL
                                                                     34 mL
   IVF:
                                                                    811 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,231 mL
                                                                    205 mL
   Urine:
                                                                    581 mL
                                                                    205 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    547 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 290 (290 - 290) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///32/
   Ve: 4.6 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at right base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended, PEG
   tube in place
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   350 K/uL
   8.1 g/dL
   101 mg/dL
   0.2 mg/dL
   32 mEq/L
   4.0 mEq/L
   9 mg/dL
   98 mEq/L
   133 mEq/L
   25.1 %
   10.1 K/uL
        [image002.jpg]
                            [**2195-1-2**]  12:05 AM
                            [**2195-1-2**]  03:54 AM
                            [**2195-1-3**]  03:58 AM
                            [**2195-1-3**]  07:35 AM
                            [**2195-1-3**]  01:54 PM
                            [**2195-1-3**]  04:30 PM
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
   WBC
   19.1
   17.7
   15.3
   14.6
   10.1
   Hct
   28.1
   26.6
   27.0
   27.3
   25.1
   Plt
   348
   351
   340
   374
   350
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   31
   Glucose
   118
   152
   158
   119
   117
   159
   101
   Other labs: PT / PTT / INR:18.5/42.8/1.7, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:2.7 g/dL,
   LDH:360 IU/L, Ca++:7.4 mg/dL, Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:  Patient
s CXR this morning with slightly
   improved  right lung opacification.
   -IP to trach pt likely tomorrow once INR <1.5. Dtr to be contact[**Name (NI) **] for
   consent
   -Continue Meropenem (day [**6-15**])
   -Vanco level today 12.4- will not redose now .
   - VAP precautions
   .
   # Rash: Appearance consistenent with drug rash,  most likely cefepime
   as patient has known penicillin allergy.  Perhaps slightly better
   today.
   -d/c
d cefepime [**1-1**], expect rash to last a few days
   -d/c antifungal cream, hydrocerin ordered
   .
   # Hypotension: Patient with hypotension this am in setting of incr
   stool outpt (650 cc overnight) free water restriction [**2-8**]
   hypernatremia. Pt remains anasarcic.
   -bolused 1L NS this am with good result
   -Cont to monitor and consider PRBCS as colloid if needed for
   hypotension later today
   .
   # C Diff colitis:  on Flagyl/Vanc for cdiff (day one [**12-22**]).  Pt
   continues to have loose stool through Flexiseal rectal tube but
   abdominal exam is benign, no signs of blood in stool or other concerns
   for worsening colitis.
    -     PO Flagyl/vanc for minimum 2 week course after d/c other abx.-
   incr Vanco today to 250 PO Q6.
   - probiotics via PEG- provided by family.
   .
   #Coagulopathy: Hep SQ restarted [**1-3**].
   -cont SQ heparin at 5000 [**Hospital1 **]
   -Vit K PO  x1 today to try to get INR <1.5 for possible trach tomorrow.
   .
   # Hyponatremia:  Patient previously with hypernatremia, then
   hyponatremia currently , likely due to too much free water.  Currently
   Na nl at 133
   -cont free water fluid restriction except for NS boluses PRN
   -check sodium in  PM labs
    .
   # CHF/Hemodynamics: Given recent hypotension, holding lisinopril,
   carvedilol, lasix. Patient has been net positive 17 L for [**Last Name (LF) **], [**First Name3 (LF) **] will
   monitor.
   .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  INR at goal -2.3
   -                continue digoxin
 level 0.4 today
   -                D/C
d coumadin for possible trach tomorrow
   - started Hep gtt without bolus to cover until procedures.
   ICU Care
   Nutrition: TF on hold for procedures. Check albumin today. Replete
   lytes PRN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   -PICC ordered for IR placement today
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: DTR is HCP with attempt to have family mtg
   today with new attg and to discuss goals of care incl trach.
   Code status: Full code
   Disposition:ICU

2195-01-06 07:07:00 Physician Resident Progress Note
Chief Complaint: 82 yo F with CVA (non-verbal), AF, CHF, and C. diff
   colitis, admitted for respiratory failure.
   24 Hour Events:
   - Family discussion revealed desire to continue with current course and
   attempt to liberate from vent for 2 more days prior to additional
   consideration for tracheostomy
   - Albumin level returned at 1.8
   - PM lytes overall stable from prior with Mag slightly down to 1.7
   - PM HCT stable at 25.9
   - Digoxin level was 0.4 with no conern for patient being
   supratherapeutic
   - Per nutrition recs, tube feeds swtiched to Nutren 2.0 Full strength
   at continuous rate of 25 mL/hr; however, were ordered to be turned off
   at midnight in anticipation of IR PICC line placement on [**1-6**]
   - Heparin drip scheduled to be off on [**1-6**] at 0600
   - Patient with tachycardia and hypertension slowing escalating starting
   at [**2116**]. This all started when patient was being moved around in bed.
   - Fentanyl drip restarted with no apparent effect on HR and BP.
   - Was given furosemide 40 mg IV x 1 due to HTN concurrent low UOP.
   - Was restarted on midazolam drip. Shortly after re-initiation of
   midazolam, HR dropped below 100 and SBP settled into the 110s.
   Patient unable to provide history: Unresponsive
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-5**] 02:00 AM
   Vancomycin - [**2195-1-6**] 02:22 AM
   Meropenem - [**2195-1-6**] 02:25 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2195-1-5**] 09:30 PM
   Other medications:
   Eucerin cream
   Albuterol
   Ipratroprium
   Digoxin 0.0625 PO daily
   Fentanyl patch 25 mcg/hr daily
   Insulin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-6**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.1
C (96.9
   HR: 109 (80 - 136) bpm
   BP: 144/53(75) {79/40(49) - 185/85(115)} mmHg
   RR: 12 (0 - 16) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 10 (-1 - 26)mmHg
   Total In:
                                                                  3,081 mL
                                                                    450 mL
   PO:
   TF:
                                                                     51 mL
                                                                    175 mL
   IVF:
                                                                  2,820 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                    972 mL
                                                                  1,555 mL
   Urine:
                                                                    972 mL
                                                                  1,555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,109 mL
                                                                 -1,105 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 18 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly irregular pulse
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   359 K/uL
   8.6 g/dL
   123 mg/dL
   0.2 mg/dL
   28 mEq/L
   3.7 mEq/L
   9 mg/dL
   104 mEq/L
   138 mEq/L
   27.1 %
   10.5 K/uL
        [image002.jpg]
                            [**2195-1-3**]  03:58 AM
                            [**2195-1-3**]  07:35 AM
                            [**2195-1-3**]  01:54 PM
                            [**2195-1-3**]  04:30 PM
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
   WBC
   17.7
   15.3
   14.6
   10.1
   10.5
   Hct
   26.6
   27.0
   27.3
   25.1
   25.9
   27.1
   Plt
   [**Telephone/Fax (3) 3627**]50
   359
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   31
   Glucose
   158
   119
   117
   159
   101
   134
   123
   Other labs: PT / PTT / INR:18.5/150.0/1.7, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:2.0 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   This is a 82 year-old female with a history of CVA/dementia s/p PEG, a
   fib, CHF, c diff who presents with unresponsiveness and respiratory
   failure in the setting of recent diagnosis of pneumonia. Stool
   specimens positive for C diff colitis, and CT a/p consistent with
   diverticulitis/colitis.
   .
    # Respiratory failure:  Patient
s CXR this morning with slightly
   improved  right lung opacification.
   -IP to trach pt likely tomorrow once INR <1.5. Dtr to be contact[**Name (NI) **] for
   consent
   -Continue Meropenem (day [**6-15**])
   -Vanco level today 12.4- will not redose now .
   - VAP precautions
   .
   # Rash: Appearance consistenent with drug rash,  most likely cefepime
   as patient has known penicillin allergy.  Perhaps slightly better
   today.
   -d/c
d cefepime [**1-1**], expect rash to last a few days
   -d/c antifungal cream, hydrocerin ordered
   .
   # Hypotension: Patient with hypotension this am in setting of incr
   stool outpt (650 cc overnight) free water restriction [**2-8**]
   hypernatremia. Pt remains anasarcic.
   -bolused 1L NS this am with good result
   -Cont to monitor and consider PRBCS as colloid if needed for
   hypotension later today
   .
   # C Diff colitis:  on Flagyl/Vanc for cdiff (day one [**12-22**]).  Pt
   continues to have loose stool through Flexiseal rectal tube but
   abdominal exam is benign, no signs of blood in stool or other concerns
   for worsening colitis.
    -     PO Flagyl/vanc for minimum 2 week course after d/c other abx.-
   incr Vanco today to 250 PO Q6.
   - probiotics via PEG- provided by family.
   .
   #Coagulopathy: Hep SQ restarted [**1-3**].
   -cont SQ heparin at 5000 [**Hospital1 **]
   -Vit K PO  x1 today to try to get INR <1.5 for possible trach tomorrow.
   .
   # Hyponatremia:  Patient previously with hypernatremia, then
   hyponatremia currently , likely due to too much free water.  Currently
   Na nl at 133
   -cont free water fluid restriction except for NS boluses PRN
   -check sodium in  PM labs
    .
   # CHF/Hemodynamics: Given recent hypotension, holding lisinopril,
   carvedilol, lasix. Patient has been net positive 17 L for [**Last Name (LF) **], [**First Name3 (LF) **] will
   monitor.
   .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  INR at goal -2.3
   -                continue digoxin
 level 0.4 today
   -                D/C
d coumadin for possible trach tomorrow
   - started Hep gtt without bolus to cover until procedures.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-5**] 11:20 PM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2194-12-24**] 10:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-07 07:58:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
 PICC LINE - START [**2195-1-6**] 05:52 PM
 MULTI LUMEN - STOP [**2195-1-6**] 06:45 PM
   - PICC placed and heparin gtt restarted (PM coags w/ INR of 1.2)
   - PM lytes WNL (low ionized calcium and magnesium, repleted)
   - PM ABG 7.46/44/105/32 (slight metabolic alkalosis, likely contraction
   alkalosis as was diuresed w/ lasix yesterday and is not overbreathing
   vent)
   - I/O goal was -500 to -1 L. Pt was -300 ccs @ 10 pm and HTN to 140s
   and tachy to 120s => initiated lasix gtt at 2.5 mg/hr. I/O in AM: -1.5
   L, stopped lasix gtt at 6 am.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2195-1-7**] 02:00 AM
   Metronidazole - [**2195-1-7**] 02:00 AM
   Vancomycin - [**2195-1-7**] 02:04 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Furosemide (Lasix) - 2.5 mg/hour
   Heparin Sodium - 400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-8**] unresponsiveness
   Flowsheet Data as of  [**2195-1-7**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 107 (89 - 133) bpm
   BP: 102/52(62) {97/40(55) - 151/111(118)} mmHg
   RR: 14 (0 - 20) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 57 Inch
    CVP: 9 (8 - 9)mmHg
   Total In:
                                                                  2,044 mL
                                                                    586 mL
   PO:
   TF:
                                                                    558 mL
                                                                    194 mL
   IVF:
                                                                  1,326 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  2,928 mL
                                                                  2,450 mL
   Urine:
                                                                  2,328 mL
                                                                  2,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -884 mL
                                                                 -1,861 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/44/105/32/6
   Ve: 5.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: on right)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis
   Skin:  Not assessed, Rash: improving over trunk, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   370 K/uL
   8.6 g/dL
   163 mg/dL
   0.2 mg/dL
   32 mEq/L
   3.6 mEq/L
   7 mg/dL
   99 mEq/L
   135 mEq/L
   27.2 %
   9.8 K/uL
        [image002.jpg]
                            [**2195-1-3**]  04:30 PM
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
   WBC
   15.3
   14.6
   10.1
   10.5
   9.8
   Hct
   27.0
   27.3
   25.1
   25.9
   27.1
   27.2
   Plt
   [**Telephone/Fax (3) 3650**]59
   370
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   31
   32
   Glucose
   117
   159
   101
   134
   123
   118
   163
   Other labs: PT / PTT / INR:15.1/150.0/1.3, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   Assessment and Plan:
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presents with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia.
    # Respiratory failure:  Has chronic RLL collapse and PNA. Family
   wishes a few more days for vent manipulation prior to considering trach
   placement.  However, after >1.5 wks intubated this time around, Trach
   would be medically appropriate.
   - trial of CPAP today
   - continue albuterol, ipratroprium inhalers
    -Completed 8 day course of Meropenem and Vancomycin
   - consider gentle diuresis pending hemodynamic stability (see below)
   - VAP precautions
   # Hemodynamic instability: Patient intermittently hypotensive due to
   fluid losses from stool, receives IVFs, then becomes hypertensive and
   tachycardic. Likely some autonomic instability [**2-8**] CVA, but
   hypertension likely associated with agitation from sedation wean +
   volume overload. CXR shows less volume overload in response to IV lasix
   administered yesterday. However LOS still +18 L.  HTN resolved with
   increased sedation.
   - continue BP monitoring
   - titrate sedation as needed
   - goal I/O -500 ccs, re-check in PM, consider lasix gtt for some gentle
   diuresis.
   - holding lisinopril, carvedilol due to episodes of hypotension
   responsive to fluid boluses.
   - Receiving PICC today for access.
   . # Rash: Likely cefepime drug rash. Cefepime stopped on [**1-1**]. Rash
   Stable.
   -continue eucerin cream daily
   # C Diff colitis:  continues to have loose stools, but benign abd with
   no signs of worsening colitis.
   - cont PO Flagyl and PO vanc for minimum 2 week course after d/c other
   abx. (day one [**12-22**])
   - probiotics via PEG- provided by family.
   # Hyponatremia:  resolved with fluid restriction.
    .
   # Afib - On digoxin. Coumadin restarted [**12-31**].  Hemodynamically stable
   and rate controlled. CHADS2 score > 4, requiring anticoagulation.
   Reversed INR with vit K x1 yesterday to get INR to 1.5 for trach/PEG
   procedures, which are currently on hold.
   -  continue digoxin
   -  holding coumadin (receving PICC), after goal should be [**2-9**].
   -  on heparin gtt, being held while patient receives PICC, then can be
   restarted for anticoagulation coverage while patient awaits trach.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-7**] 03:50 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2195-01-08 08:05:00 Physician Resident Progress Note
Chief Complaint: Unresponsiveness
   24 Hour Events:
   - Tried to wean sedation- Fentanyl to 25, Versed to 0.5
   - Attempted furosemide gtt twice, though was limited by hypotension.
   Despite minimal infusion of furosemide yesterday, patient diuresed 1800
   mL without intervention
   - Trial of [**Name (NI) 3673**] pt did not tolerate
   - Patient had multiple episode of hypotension in last 24 hours that
   would resolve with arousal
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins (Unknown)
   Erythromycin Base (Unknown)
   Cefepime (Rash)
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-7**] 02:00 AM
   Meropenem - [**2195-1-7**] 08:02 PM
   Vancomycin - [**2195-1-7**] 08:03 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-7**] 03:30 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-8**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 90 (80 - 113) bpm
   BP: 92/40(54) {85/29(40) - 140/72(80)} mmHg
   RR: 7 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,764 mL
                                                                    404 mL
   PO:
             TF:
                                                                    610 mL
                                                                    199 mL
   IVF:
                                                                    914 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  3,534 mL
                                                                    340 mL
   Urine:
                                                                  3,484 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,770 mL
                                                                     64 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 8.1 L/min
   Physical Examination
   GEN: NAD, intubated and lying in bed
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, no LAD
   PULM: Decreased breath sounds on right anterior field
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-tender, non-distended
   EXT: Diffuse 2+ to 3+ pitting edema
   SKIN: Erythematous rash across entire body with desquamation of skin
   diffusely
   NEURO: Patient would open her eyes to voice, but was minimally
   interactive
   Labs / Radiology
   378 K/uL
   8.2 g/dL
   98 mg/dL
   0.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.3 %
   9.2 K/uL
        [image002.jpg]
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
   WBC
   15.3
   14.6
   10.1
   10.5
   9.8
   9.2
   Hct
   27.0
   27.3
   25.1
   25.9
   27.1
   27.2
   25.3
   Plt
   [**Telephone/Fax (3) 3650**]59
   370
   378
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   32
   Glucose
   117
   159
   101
   134
   123
   118
   163
   98
   Other labs: PT / PTT / INR:14.1/80.0/1.2, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia.
   # Respiratory failure:
   Has chronic RLL collapse and PNA. Family wishes a few more days for
   vent manipulation prior to considering trach placement.  Patient has
   been intubated for close to two weeks without significant ability to
   liberate from ventilator. CPAP trial this AM revealed that patient
   could not tolerate due to low minute ventilation.
   - Continue albuterol, ipratroprium inhalers
    -Completed 8 day course of Meropenem and Vancomycin on [**2195-1-7**]
   - Continue ongoing gentle diuresis with furosemide drip pending
   hemodynamic stability (see below)
   - VAP precautions
   # Hemodynamic instability:
   Patient intermittently hypotensive, receives IVFs, then becomes
   hypertensive and tachycardic. Likely some autonomic instability
   secondary to CVA, but hypertension also potentially associated with
   agitation from sedation wean in setting of volume overload. Patient was
   1.8 L negative for fluid balance yesterday, howere still difusely
   edematous with fluid balance of  positive 15 L for LOS.
   - Continue BP monitoring
   - Titrate sedation as needed
   - Goal I/O should be even to  -500 mL, re-check in PM, consider
   restarting lasix gtt at 1/hr for some gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   Likely cefepime drug rash. Cefepime stopped on [**1-1**]. Rash resolving
   with improving erythema and some residual desquamation.
   - Continue eucerin cream daily
   # C Diff colitis:
   Continues to have loose stools, but benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO will start
   today ([**2195-1-8**])
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 80s
 100s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin
   -  Warfarin currently on hold and patient receiving heparin drip in
   anticipation of procedures, peding family decision
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-7**] 11:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: Boots, and systemic anticoagulation with heparin drip
   Stress ulcer: On lansoprazole
   VAP: Per protocol
   Comments:
   Communication:  With patient
s family
   Code status: Full code
   Disposition: Needs continued intensive care status

2195-01-08 12:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on mechanical ventialation via ETT.
   Tremendous net diuresis to lasix drip.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-7**] 02:00 AM
   Meropenem - [**2195-1-8**] 08:15 AM
   Vancomycin - [**2195-1-8**] 09:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-7**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-1-8**] 12:56 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 87 (79 - 113) bpm
   BP: 99/46(59) {81/29(40) - 141/72(87)} mmHg
   RR: 0 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,764 mL
                                                                    851 mL
   PO:
             TF:
                                                                    610 mL
                                                                    315 mL
   IVF:
                                                                    914 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  3,534 mL
                                                                    470 mL
   Urine:
                                                                  3,484 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,770 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 4.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, Sedated,
   No(t) Paralyzed, Tone: Normal, right hemiplegia;
   Labs / Radiology
   8.2 g/dL
   378 K/uL
   98 mg/dL
   0.1 mg/dL
   31 mEq/L
   4.0 mEq/L
   8 mg/dL
   101 mEq/L
   135 mEq/L
   25.3 %
   9.2 K/uL
        [image002.jpg]
                            [**2195-1-3**]  08:04 PM
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
   WBC
   15.3
   14.6
   10.1
   10.5
   9.8
   9.2
   Hct
   27.0
   27.3
   25.1
   25.9
   27.1
   27.2
   25.3
   Plt
   [**Telephone/Fax (3) 3650**]59
   370
   378
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   TCO2
   32
   Glucose
   117
   159
   101
   134
   123
   118
   163
   98
   Other labs: PT / PTT / INR:14.1/80.0/1.2, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE --  multifactorial; recent pneumonia, right
   hemidiaphragm paralysis, recurrent RUL atalectasis.  No significant
   progress with weaning.  Would move to tracheotomy tube if accetpable to
   patient.
   LLL DENSITY -- new interval development of LLL density --> suspect
   atalectasis.  No evidence for active lung infection at this time.
   Monitor for clinical evidence of pneumonia.
   NUTRITIONAL SUPPORT -- continue TF.  Remains with poor albumin.
   HYPOTENSION -- improved.
   FLUIDS -- desire net negative fluid balance.
   CVA -- right hemeparesis, aphasia
   C. Diff -- continue PO vanco/IV flagyl for c-diff --> treat X 2 wks
   after additional antibx completed
   A-FIB -- rate controlled.  Anticoagulation.
   RASH
 improving off antimicrobials.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-8**] 09:30 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2195-01-09 06:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 82 year-old female with a history of CVA/dementia s/p
   PEG, a fib, CHF, c diff who presents with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia.
   24 Hour Events:
   - Patient was liberated from fentanyl drip
   - Furosemide drip was running at 1/mg/hr all day with patient's urine
   output remaining appropriate throughout
   - Patient experienced episodes of hypotension to the 80s in the AM;
   however when patient was aroused, the blood pressure normalize without
   any additional intervention
   - Interventional pulmonary called daughter and obtained phone consent
   for tracheostomy to be performed on [**2195-1-9**]
   - Patient was made to ahve no tube feeds after midnight and heparin
   drip was scheduled to be stopped at 0600 on morning of [**2195-1-9**].
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-7**] 02:00 AM
   Meropenem - [**2195-1-8**] 08:15 AM
   Vancomycin - [**2195-1-9**] 03:00 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-9**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 86 (76 - 118) bpm
   BP: 103/42(57) {81/32(42) - 145/80(91)} mmHg
   RR: 16 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,351 mL
                                                                     98 mL
   PO:
             TF:
                                                                    602 mL
   IVF:
                                                                    509 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    620 mL
   Urine:
                                                                  1,105 mL
                                                                    620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    246 mL
                                                                   -522 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 15 cmH2O
   Plateau: 20 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 6.9 L/min
   Physical Examination
   GEN: NAD, intubated and lying in bed
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, no LAD
   PULM: Decreased breath sounds on right anterior field
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-tender, non-distended
   EXT: Diffuse 2+ to 3+ pitting edema
   SKIN: Erythematous rash across entire body with desquamation of skin
   diffusely
   NEURO: Patient would open her eyes to voice, but was minimally
   interactive
   Labs / Radiology
   355 K/uL
   8.2 g/dL
   90 mg/dL
   0.1 mg/dL
   33 mEq/L
   3.4 mEq/L
   7 mg/dL
   96 mEq/L
   134 mEq/L
   25.6 %
   10.4 K/uL
        [image002.jpg]
                            [**2195-1-4**]  06:14 AM
                            [**2195-1-4**]  05:10 PM
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
   WBC
   14.6
   10.1
   10.5
   9.8
   9.2
   10.4
   Hct
   27.3
   25.1
   25.9
   27.1
   27.2
   25.3
   25.6
   Plt
   374
   350
   359
   370
   378
   355
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   0.1
   TCO2
   32
   Glucose
   117
   159
   101
   134
   123
   118
   163
   98
   90
   Other labs: PT / PTT / INR:14.1/52.7/1.2, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:1.4 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia.
   # Respiratory failure:
   Has chronic RLL collapse and PNA. Family wishes a few more days for
   vent manipulation prior to considering trach placement.  Patient has
   been intubated for close to two weeks without significant ability to
   liberate from ventilator. CPAP trial this AM revealed that patient
   could not tolerate due to low minute ventilation.
   - Continue albuterol, ipratroprium inhalers
    -Completed 8 day course of Meropenem and Vancomycin on [**2195-1-7**]
   - Continue ongoing gentle diuresis with furosemide drip pending
   hemodynamic stability (see below)
   - VAP precautions
   # Hemodynamic instability:
   Patient intermittently hypotensive, receives IVFs, then becomes
   hypertensive and tachycardic. Likely some autonomic instability
   secondary to CVA, but hypertension also potentially associated with
   agitation from sedation wean in setting of volume overload. Patient was
   1.8 L negative for fluid balance yesterday, howere still difusely
   edematous with fluid balance of  positive 15 L for LOS.
   - Continue BP monitoring
   - Titrate sedation as needed
   - Goal I/O should be even to  -500 mL, re-check in PM, consider
   restarting lasix gtt at 1/hr for some gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   Likely cefepime drug rash. Cefepime stopped on [**1-1**]. Rash resolving
   with improving erythema and some residual desquamation.
   - Continue eucerin cream daily
   # C Diff colitis:
   Continues to have loose stools, but benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO will start
   today ([**2195-1-8**])
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 80s
 100s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin
   -  Warfarin currently on hold and patient receiving heparin drip in
   anticipation of procedures, peding family decision
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-10 06:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - The patient was supposed to have gone for trach placement today,
   however due to scheduling issues she will not be able to have it placed
   until Tuesday.  It is tentatively scheduled for Tuesday at noon now per
   IP.
   - Her lasix gtt was stopped in anticipation of trach placement, however
   it was restarted shortly after tube feeds were started.  She was
   approximately 1 L negative for the day.
   - She was restarted on tube feeds and a heparin gtt.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2195-1-8**] 08:15 AM
   Vancomycin - [**2195-1-10**] 02:00 AM
   Metronidazole - [**2195-1-10**] 02:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Telemetry:
   Irregular in the 90
s to 110
   Flowsheet Data as of  [**2195-1-10**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 101 (80 - 119) bpm
   BP: 129/50(66) {103/36(54) - 140/87(94)} mmHg
   RR: 15 (5 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                    803 mL
                                                                    432 mL
   PO:
             TF:
                                                                     75 mL
                                                                    164 mL
   IVF:
                                                                    547 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  1,748 mL
                                                                    148 mL
   Urine:
                                                                  1,698 mL
                                                                    148 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -945 mL
                                                                    284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///33/
   Ve: 7.5 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD, intubated
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, JVP not seen
   PULM: slightly coarse breath sounds anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+ - 3+ pitting edema
   SKIN: Erythematous rash across entire body with desquamation of skin
   diffusely
   NEURO: Patient would open her eyes to voice, but was minimally
   interactive
   Labs / Radiology
   447 K/uL
   9.2 g/dL
   125 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.8 mEq/L
   7 mg/dL
   95 mEq/L
   133 mEq/L
   28.0 %
   7.1 K/uL
        [image002.jpg]
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
   WBC
   10.1
   10.5
   9.8
   9.2
   10.4
   7.1
   Hct
   25.1
   25.9
   27.1
   27.2
   25.3
   25.6
   28.0
   Plt
   350
   359
   370
   378
   355
   447
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   0.1
   0.2
   0.2
   TCO2
   32
   Glucose
   101
   134
   123
   118
   163
   98
   90
   98
   125
   Other labs: PT / PTT / INR:14.1/52.7/1.2, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia.
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Her family is now willing to
   allow trach placement as the patient has been intubated for close to
   two weeks without significant ability to liberate from ventilator.
   -  Will have a trach placed today.
   - Continue albuterol, ipratroprium inhalers
   - Continue ongoing gentle diuresis with furosemide drip pending
   hemodynamic stability (see below)
   - VAP precautions
   # Hemodynamic instability:
   Patient had an episode of hypotension to the 80
s which resolved
   spontanesously yesterday. Likely some autonomic instability secondary
   to CVA, but hypertension also potentially associated with agitation
   from sedation wean in setting of volume overload.  Now off the fentanyl
   drip.   Patient was 500 cc negative for fluid balance yesterday, howere
   still difusely edematous with fluid balance of  positive 15 L for LOS.
   - Continue BP monitoring
   - Goal I/O should be 500 mL to 1 L negative, continue lasix gtt at 1/hr
   for gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   The patient cotinues to have an ertyhematous rash with residual
   desquamation.  Likely secondary to a cefepime drug rash. Cefepime was
   stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Stools are not as loose now and she has a benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 2
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 80s
 110s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin
   -  Warfarin currently on hold and patient receiving heparin drip in as
   she is going for trach placement.
   # Anemia
 Patient with a Hct of 25.6 this am (stable from 25.3
   yesterday).  Her Hct was in the low 30
s on admission and has trended
   downward over her stay.  No clinical evidence of bleeding.  Likely
   secondary to her acute illness.
   - Will continue to trend with a transfusion threshold of 21.
 ELECTROLYTE & FLUID DISORDER, OTHER
 .H/O HYPOTENSION (NOT SHOCK)
 .H/O HEART FAILURE (CHF), DIASTOLIC, ACUTE
 .H/O ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 .H/O CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERTENSION, BENIGN
 .H/O PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-9**] 08:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-10 11:12:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2195-1-8**] 08:15 AM
   Metronidazole - [**2195-1-10**] 02:00 AM
   Vancomycin - [**2195-1-10**] 07:32 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-10**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2195-1-10**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 123 (89 - 123) bpm
   BP: 140/57(76) {106/40(56) - 140/81(94)} mmHg
   RR: 15 (5 - 19) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                    803 mL
                                                                    736 mL
   PO:
             TF:
                                                                     75 mL
                                                                    271 mL
   IVF:
                                                                    547 mL
                                                                    235 mL
   Blood products:
   Total out:
                                                                  1,748 mL
                                                                    938 mL
   Urine:
                                                                  1,698 mL
                                                                    938 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -945 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 23 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 97%
   ABG: ///33/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: , No(t) Obese
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: Descquamatin in progress; erythema resolving, No(t)
   Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, right hemiparesis
   Labs / Radiology
   9.2 g/dL
   447 K/uL
   125 mg/dL
   0.2 mg/dL
   33 mEq/L
   3.8 mEq/L
   7 mg/dL
   95 mEq/L
   133 mEq/L
   28.0 %
   7.1 K/uL
        [image002.jpg]
                            [**2195-1-5**]  05:30 AM
                            [**2195-1-5**]  02:48 PM
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
   WBC
   10.1
   10.5
   9.8
   9.2
   10.4
   7.1
   Hct
   25.1
   25.9
   27.1
   27.2
   25.3
   25.6
   28.0
   Plt
   350
   359
   370
   378
   355
   447
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   0.1
   0.1
   0.2
   0.2
   TCO2
   32
   Glucose
   101
   134
   123
   118
   163
   98
   90
   98
   125
   Other labs: PT / PTT / INR:12.9/52.5/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Attributed primarily to  Awaiting
   ATALECTASIS -- persistent LLL.  Recurrent problem, initially with right
   lung.  [**Month (only) 8**] benefit from bronchoscopy to aspirate LLL secretions.
   RASH -- attributed to antibiotics (cefopime).  Resolving.
   C. Diff -- continue antimicrobials (PO Vanco, Flagyl)
   A-FIB -- rate controlled.  Digoxin alone.  Continue anticoagulation.
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP
   FLUIDS -- desire net negative fluid balance.  Monitor I/O.
   NUTRITIONAL SUPPORT -- TF via PEG.
   h/o CVA -- stable.
   Primary issues include:
   Resp failure
   mucus plugging/atelectasis, secretions (no endobronchial lesion by
   bronch)
   pna
   volume overload
   c diff colitis (recurrent)
   drug rash
presumed from cefepime, improving slowly
   leukocytosis--improving
   hyponatremia
   CVA
r hemeparesis, aphasia
   dementia
   HOTN/HTN--? autonomic insufficiency
   Has continued to fail multiple weaning trials.  Family now agreeable to
   move forward with trach which is scheduled for today.  Agree with plan
   to continue current vent support.  Continue chest pt, pulm toilet, sx
   and nebs.  Is now s/p course antibx for pna. Continue gentle diuresis
   with lasix gtt (on hold for now) at low dose pending I/O's evaluation,
   with goal 500 to 1 L neg fluid balance. Afib on dig with well
   controlled rates. ? component of autonomic insuff from prior cva
   contributing to intermittent HOTN/htn also likely related to fluid
   shifts with diuresis.   Drug rash continues to resolve. Continue PO
   vanco/IV flagyl for c-diff -->to complete on [**1-21**]. Given CHADs score is
   on hep gtt-->on hold for trach. Anemia remains stable--transfusion
   threshold of hct 21, no evidence of active ischemia. TFs (on hold for
   trach).  Picc.  Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-9**] 08:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2195-01-11 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - UOP good, I/O goal -1L met
   - Lasix gtt held overnight, as goal UOP met and was making good urine
   on own
   - Tolerated tube feeds without difficulty
   - Plan is still for trach on Tuesday with IP
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2195-1-8**] 08:15 AM
   Vancomycin - [**2195-1-11**] 02:10 AM
   Metronidazole - [**2195-1-11**] 03:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-10**] 07:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-11**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 99 (86 - 123) bpm
   BP: 133/52(74) {110/37(58) - 140/61(101)} mmHg
   RR: 12 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,410 mL
                                                                    277 mL
   PO:
             TF:
                                                                    600 mL
                                                                    172 mL
   IVF:
                                                                    550 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,493 mL
                                                                    225 mL
   Urine:
                                                                  2,193 mL
                                                                    225 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///34/
   Ve: 6.1 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD, intubated
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, JVP not seen
   PULM: coarse upper airway  sounds anteriorly
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+  pitting edema
   SKIN: Erythematous rash across entire body with desquamation of skin
   diffusely
   NEURO: Patient will move all extremities to command and shake her head
   to questions.
   Labs / Radiology
   392 K/uL
   7.8 g/dL
   124 mg/dL
   0.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   7 mg/dL
   99 mEq/L
   135 mEq/L
   23.5 %
   6.8 K/uL
        [image002.jpg]
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
   WBC
   10.5
   9.8
   9.2
   10.4
   7.1
   6.8
   Hct
   27.1
   27.2
   25.3
   25.6
   28.0
   23.5
   Plt
   359
   370
   378
   355
   447
   392
   Cr
   0.2
   0.2
   0.2
   0.1
   0.1
   0.2
   0.2
   0.2
   0.1
   TCO2
   32
   Glucose
   123
   118
   163
   98
   90
   98
   125
   133
   124
   Other labs: PT / PTT / INR:12.9/64.8/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia
   await trach placement.
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Her family is now willing to
   allow trach placement as the patient has been intubated for close to
   two weeks without significant ability to liberate from ventilator.
   Trach is scheduled to be placed on Tuesday, [**2195-1-13**].
   -  Trach placement Tuesday [**2195-1-13**]
   - Continue albuterol, ipratroprium inhalers
   - Continue ongoing gentle diuresis with furosemide drip for a goal of 1
   L negative.
   - VAP precautions
   - Chest PT
   # Volume status/BP:
   The patient
s BPs have been better controlled.  She was 1 L negative
   yesterday howevre still difusely edematous with fluid balance of
   positive 14 L for LOS.
   - Continue BP monitoring
   - Goal I/O should be 1 L negative, continue lasix gtt at 1-5/hr for
   gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   The patient cotinues to have an erythematous rash with residual
   desquamation.  Likely secondary to a cefepime drug rash. Cefepime was
   stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Stools are not as loose now and she has a benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 4
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 90s
 110s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin; will hold of on additional rate control agents
   given her history of labile pressures as she is being actively
   diuresed.
   -  Warfarin currently on hold and patient receiving heparin drip in as
   she is going for trach placement.
   # Anemia
 HCT down to 23 today (was 28 yesterday).  Her Hct was in the
   low 30
s on admission and has trended downward over her stay.  No
   clinical evidence of bleeding.  Likely secondary to her acute illness.
   - Will continue to trend with a transfusion threshold of 21.
   - recheck HCT this morning
   - guiaic stools
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-9**] 08:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: systemically anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU level of care required

2195-01-11 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerating lasix infusion to induce net diuresis.
   History obtained from Medical records
   Patient unable to provide history: ETT
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-11**] 08:00 AM
   Metronidazole - [**2195-1-11**] 09:18 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-1-11**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 95 (86 - 117) bpm
   BP: 125/51(70) {110/37(58) - 144/77(101)} mmHg
   RR: 14 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,410 mL
                                                                    629 mL
   PO:
             TF:
                                                                    600 mL
                                                                    283 mL
   IVF:
                                                                    550 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  2,493 mL
                                                                    810 mL
   Urine:
                                                                  2,193 mL
                                                                    810 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,083 mL
                                                                   -181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 27 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 100%
   ABG: ///34/
   Ve: 5.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: resolving erythema, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   392 K/uL
   124 mg/dL
   0.1 mg/dL
   34 mEq/L
   3.8 mEq/L
   7 mg/dL
   99 mEq/L
   135 mEq/L
   23.5 %
   6.8 K/uL
        [image002.jpg]
                            [**2195-1-6**]  04:27 AM
                            [**2195-1-6**]  05:37 PM
                            [**2195-1-6**]  07:24 PM
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
   WBC
   10.5
   9.8
   9.2
   10.4
   7.1
   6.8
   Hct
   27.1
   27.2
   25.3
   25.6
   28.0
   23.5
   Plt
   359
   370
   378
   355
   447
   392
   Cr
   0.2
   0.2
   0.2
   0.1
   0.1
   0.2
   0.2
   0.2
   0.1
   TCO2
   32
   Glucose
   123
   118
   163
   98
   90
   98
   125
   133
   124
   Other labs: PT / PTT / INR:12.9/64.8/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Attributed primarily to pneumonia,
   atalectasis and CHF.  Awaiting trach.  Continue supportive care.
   ANEMIA
 no obvious clinical bleeding.  Monitor Hct serially.
   ATALECTASIS -- persistent LLL.  Recurrent problem, initially with right
   lung.  [**Month (only) 8**] benefit from bronchoscopy to aspirate LLL secretions.
   RASH -- attributed to antibiotics (cefopime).  Resolving.
   C. Diff -- continue antimicrobials (PO Vanco, Flagyl)
   A-FIB -- rate controlled.  Digoxin alone.  Continue anticoagulation
   with heparin in anticipation of trach..
   HYPOTENSION -- resolved.  Monitor BP, maintain MAP > 60 mmHg.
   FLUIDS -- desire net negative fluid balance.  Monitor I/O.  Continue
   net diuresis.
   NUTRITIONAL SUPPORT -- TF via PEG.
   h/o CVA -- stable.  No evidence for new neurological events.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-9**] 08:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2195-01-12 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2195-1-11**] 01:20 PM
   - Lasix increased up to 3mg/hour in the evening to reach I/O goal of
   -1L, then decreased to 2mg/hour, then to 1 mg/hr this am
   - bronch was done showing thin frothy copious secretions pooled in LL
   basilar segments and R mainstem.  These were cleared completely with
   suction
   - HCT had dropped to 23 yesterday morning, on repeat was still 23
   - guaiac negative
   - Plan is still for trach on Tuesday with IP
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-12**] 02:17 AM
   Metronidazole - [**2195-1-12**] 02:17 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-11**] 09:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-12**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 83 (83 - 117) bpm
   BP: 115/52(67) {112/38(58) - 144/77(91)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,931 mL
                                                                    318 mL
   PO:
             TF:
                                                                    600 mL
                                                                    153 mL
   IVF:
                                                                  1,001 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                    610 mL
   Urine:
                                                                  3,210 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,379 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 7.1 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD, intubated
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, JVP not seen
   PULM: CTAB
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+ pitting edema
   SKIN: Erythematous rash now improved with continued desquamation of
   skin diffusely
   NEURO: Patient will move all extremities to command and shake her head
   to questions.  Appears to try to speak around her endotracheal tube
   Labs / Radiology
   427 K/uL
   7.8 g/dL
   129 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   6 mg/dL
   98 mEq/L
   133 mEq/L
   25.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
   WBC
   9.8
   9.2
   10.4
   7.1
   6.8
   6.6
   7.6
   Hct
   27.2
   25.3
   25.6
   28.0
   23.5
   23.6
   25.2
   Plt
   370
   378
   355
   447
   392
   374
   427
   Cr
   0.2
   0.1
   0.1
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   Glucose
   163
   98
   90
   98
   125
   133
   124
   125
   129
   Other labs: PT / PTT / INR:12.9/65.2/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia
   awaiting trach placement.
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Patient had a bronchoscopy
   yesterday to attempt to open her RLL and had secretions suctioned.  Her
   family is now willing to allow trach placement as the patient has been
   intubated for close to two weeks without significant ability to
   liberate from ventilator.  Trach is scheduled to be placed on Tuesday,
   [**2195-1-13**].
   -  Trach placement Tuesday [**2195-1-13**]
   - Continue albuterol, ipratroprium inhalers
   - Continue ongoing gentle diuresis with furosemide drip for a goal of
   [**1-8**].5 L negative.
   - VAP precautions
   - Chest PT
   # Volume status/BP:
   The patient
s BPs have been better controlled.  She was 1.3 L negative
   yesterday however still difusely edematous with fluid balance of
   positive 12.5 L for LOS.
   - Continue BP monitoring
   - Goal I/O should be 1- 1.5 L negative, continue lasix gtt at 1-5/hr
   for gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   The patient cotinues to have an erythematous rash which is improving
   now with residual desquamation.  Likely secondary to a cefepime drug
   rash. Cefepime was stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Stools are not as loose now and she has a benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 5
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 90s
 110s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin; will hold of on additional rate control agents
   given her history of labile pressures as she is being actively
   diuresed.
   -  Warfarin currently on hold and patient receiving heparin drip in as
   she is going for trach placement.
   # Anemia
 HCT stable at 25.2 today (was 23.6 yesterday).  Her Hct was
   in the low 30
s on admission and has trended downward over her stay.
   No clinical evidence of bleeding.  Likely secondary to her acute
   illness.
   - Will continue to trend with a transfusion threshold of 21.
   - recheck HCT this morning
   - guiaic stools
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-9**] 08:59 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: systemically anticoagulated
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU level of care required

2195-01-12 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   82 yo hx CVA, dementia, Afib, Cdiff, persistent resp failure.
   24 Hour Events:
   Bronch'd for RLL atelectasis yest pm. No endobronchial lesions, no
   mucus plug noted. No overnight events.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-12**] 02:17 AM
   Metronidazole - [**2195-1-12**] 02:17 AM
   Infusions:
   Furosemide (Lasix) - 1 mg/hour
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2195-1-11**] 09:38 PM
   Other medications:
   RISS, fentanyl patch, lansoprazole, Digoxin, Peridex, Atrovent,
   Lactobacillus
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-12**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.3
   HR: 87 (83 - 111) bpm
   BP: 131/54(73) {112/38(58) - 137/60(78)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,931 mL
                                                                    620 mL
   PO:
             TF:
                                                                    600 mL
                                                                    297 mL
   IVF:
                                                                  1,001 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  3,310 mL
                                                                  1,070 mL
   Urine:
                                                                  3,210 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,379 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 593 (593 - 593) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///31/
   Ve: 7.2 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: irreg irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, PEG site c/d/i
   Extremities: Right: 2+, Left: 2+, LUE swelling
   Skin:  Warm, Rash: desquamative erythematous rash diffusely
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   427 K/uL
   129 mg/dL
   0.2 mg/dL
   31 mEq/L
   3.9 mEq/L
   6 mg/dL
   98 mEq/L
   133 mEq/L
   25.2 %
   7.6 K/uL
        [image002.jpg]
                            [**2195-1-7**]  03:00 AM
                             [**2195-1-8**]  04:30 AM
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
   WBC
   9.8
   9.2
   10.4
   7.1
   6.8
   6.6
   7.6
   Hct
   27.2
   25.3
   25.6
   28.0
   23.5
   23.6
   25.2
   Plt
   370
   378
   355
   447
   392
   374
   427
   Cr
   0.2
   0.1
   0.1
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   Glucose
   163
   98
   90
   98
   125
   133
   124
   125
   129
   Other labs: PT / PTT / INR:12.9/65.2/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: Guaiac neg ([**1-11**])
   Imaging: CXR- B effusions, patchy UL infiltrates
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, intubated x 21d.  Attributed
   primarily to pneumonia (now has completed ABX tx), atalectasis and
   CHF.  Awaiting trach.  Continue supportive care. Diuresis for neg fluid
   balance. [**Month (only) 8**] benefit from PRBC or albumin to maintian intravasc
   pressure while diuresing, esp given profound hypo-albuminemia
   ANEMIA
 no obvious clinical bleeding.  Monitor Hct serially.
   RASH -- attributed to antibiotics (cefopime).  Resolving.
   C. Diff -- continue antimicrobials (PO Vanco, Flagyl)
   A-FIB -- rate controlled.  Digoxin alone.  Continue anticoagulation
   with heparin in anticipation of trach. Anticipate coumadin tx once
   procedures are finished.
   NUTRITIONAL SUPPORT -- TF via PEG. Hold t.f. after MN for trach
   tomorrow.
   h/o CVA -- stable.  No evidence for new neurological events.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-11**] 09:14 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2195-01-13 06:18:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Her UOP continued to be adequate and her lasix was continued at 1-2
   mg/hour.
   - Her tube feeds and heparin gtt were stopped after midnight for trach
   placement in the am.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-12**] 02:17 AM
   Vancomycin - [**2195-1-12**] 01:38 PM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-13**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.7
C (98.1
   HR: 98 (79 - 115) bpm
   BP: 135/61(75) {105/34(56) - 141/67(82)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,338 mL
                                                                    112 mL
   PO:
             TF:
                                                                    600 mL
                                                                     31 mL
   IVF:
                                                                    418 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                    760 mL
   Urine:
                                                                  2,555 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,217 mL
                                                                   -648 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 113 (113 - 593) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: ///34/
   Ve: 5.1 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD, intubated
   HEENT: AT/NC, PERRL, ET tube in place
   NECK: Supple, JVP not seen
   PULM: CTAB
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+ pitting edema
   SKIN: Erythematous rash now improved with continued desquamation of
   skin diffusely
   NEURO: Patient will move all extremities to command and shake her head
   to questions.  Appears to try to speak around her endotracheal tube
   Labs / Radiology
   443 K/uL
   8.1 g/dL
   99 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.8 mEq/L
   6 mg/dL
   96 mEq/L
   134 mEq/L
   24.8 %
   7.1 K/uL
         [image002.jpg]
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
   WBC
   10.4
   7.1
   6.8
   6.6
   7.6
   7.1
   Hct
   25.6
   28.0
   23.5
   23.6
   25.2
   24.8
   Plt
   355
   447
   392
   374
   427
   443
   Cr
   0.1
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   Glucose
   90
   98
   125
   133
   124
   125
   129
   99
   Other labs: PT / PTT / INR:12.9/75.3/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia
   awaiting trach placement.
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Patient had a bronchoscopy
   yesterday to attempt to open her RLL and had secretions suctioned.  Her
   family is now willing to allow trach placement as the patient has been
   intubated for close to two weeks without significant ability to
   liberate from ventilator.  Trach is scheduled to be placed on Tuesday,
   [**2195-1-13**].
   -  Trach placement Tuesday [**2195-1-13**]
   - Continue albuterol, ipratroprium inhalers
   - Continue ongoing gentle diuresis with furosemide drip for a goal of
   [**1-8**].5 L negative.
   - VAP precautions
   - Chest PT
   # Volume status/BP:
   The patient
s BPs have been better controlled.  She was 1.3 L negative
   yesterday however still difusely edematous with fluid balance of
   positive 12.5 L for LOS.
   - Continue BP monitoring
   - Goal I/O should be 1- 1.5 L negative, continue lasix gtt at 1-5/hr
   for gentle diuresis.
   - Holding lisinopril, carvedilol due to episodes of hypotension
   # Rash:
   The patient cotinues to have an erythematous rash which is improving
   now with residual desquamation.  Likely secondary to a cefepime drug
   rash. Cefepime was stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Stools are not as loose now and she has a benign abd with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 5
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 90s
 110s.
   CHADS2 score > 4, requiring anticoagulation.
   -  Continue digoxin; will hold of on additional rate control agents
   given her history of labile pressures as she is being actively
   diuresed.
   -  Warfarin currently on hold and patient receiving heparin drip in as
   she is going for trach placement.
   # Anemia
 HCT stable at 25.2 today (was 23.6 yesterday).  Her Hct was
   in the low 30
s on admission and has trended downward over her stay.
   No clinical evidence of bleeding.  Likely secondary to her acute
   illness.
   - Will continue to trend with a transfusion threshold of 21.
   - recheck HCT this morning
   - guiaic stools
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-01-13 11:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   no events.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-12**] 01:38 PM
   Metronidazole - [**2195-1-13**] 10:17 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   RISS, fentanyl patch, Prevacid, Digoxin, Peridex, Atrovent, Heparin gtt
   held.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-13**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 85 (79 - 115) bpm
   BP: 109/63(70) {105/34(56) - 141/67(82)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,338 mL
                                                                    173 mL
   PO:
             TF:
                                                                    600 mL
                                                                     31 mL
   IVF:
                                                                    418 mL
                                                                     42 mL
   Blood products:
   Total out:
                                                                  2,555 mL
                                                                  1,370 mL
   Urine:
                                                                  2,555 mL
                                                                  1,370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,217 mL
                                                                 -1,197 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 113 (113 - 113) mL
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 80
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: ///34/
   Ve: 6.5 L/min
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   443 K/uL
   99 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.8 mEq/L
   6 mg/dL
   96 mEq/L
   134 mEq/L
   24.8 %
   7.1 K/uL
        [image002.jpg]
                             [**2195-1-9**]  03:25 AM
                             [**2195-1-9**]  04:59 PM
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
   WBC
   10.4
   7.1
   6.8
   6.6
   7.6
   7.1
   Hct
   25.6
   28.0
   23.5
   23.6
   25.2
   24.8
   Plt
   355
   447
   392
   374
   427
   443
   Cr
   0.1
   0.2
   0.2
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   Glucose
   90
   98
   125
   133
   124
   125
   129
   99
   Other labs: PT / PTT / INR:13.1/25.6/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, intubated x 21d.  Attributed
   primarily to pneumonia (now has completed ABX tx), atalectasis and
   CHF.  Awaiting trach.  Continue supportive care. Diuresis for neg fluid
   balance. [**Month (only) 8**] benefit from PRBC or albumin to maintian intravasc
   pressure while diuresing, esp given profound hypo-albuminemia. To get
   trach today fro prolonged intubation
   ANEMIA
 no obvious clinical bleeding.  Monitor Hct serially.
   RASH -- attributed to antibiotics (cefopime).  Resolving.
   C. Diff -- continue antimicrobials (PO Vanco, Flagyl)
   A-FIB -- rate controlled.  Digoxin alone.  Continue anticoagulation
   with heparin in anticipation of trach. Anticipate coumadin tx once
   procedures are finished.
   NUTRITIONAL SUPPORT -- TF via PEG. Hold t.f. after MN for trach
   tomorrow.
   h/o CVA -- stable.  No evidence for new neurological events.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2195-01-14 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - got trach placed without complication
   - being screened for rehab
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-14**] 01:52 AM
   Metronidazole - [**2195-1-14**] 01:52 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-14**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 111 (81 - 122) bpm
   BP: 134/70(76) {99/28(45) - 159/113(116)} mmHg
   RR: 17 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                    755 mL
                                                                    592 mL
   PO:
             TF:
                                                                     31 mL
   IVF:
                                                                    274 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    605 mL
   Urine:
                                                                  2,785 mL
                                                                    305 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                 -2,030 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 6.3 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD
   HEENT: AT/NC, PERRL
   NECK: tracheostomy in place
   PULM: CTAB
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+ pitting edema
   SKIN: Erythematous rash now improved
   NEURO: Patient is [**Last Name (LF) 3848**], [**First Name3 (LF) 124**] flutter her eyes to voice, but will
   not follow commands.  Withdraws to noxious stimuli.
   Labs / Radiology
   452 K/uL
   7.7 g/dL
   86 mg/dL
   0.2 mg/dL
   27 mEq/L
   4.4 mEq/L
   5 mg/dL
   97 mEq/L
   132 mEq/L
   23.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
                             [**2195-1-13**]  05:35 PM
                             [**2195-1-14**]  04:19 AM
   WBC
   7.1
   6.8
   6.6
   7.6
   7.1
   7.3
   Hct
   28.0
   23.5
   23.6
   25.2
   24.8
   23.7
   Plt
   447
   392
   374
   427
   443
   452
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   125
   133
   124
   125
   129
   99
   130
   86
   Other labs: PT / PTT / INR:13.2/25.3/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia s/p
   trach placement yesterday.
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Patient had a bronchoscopy
   recently to attempt to open her RLL and had secretions suctioned.
   Given that she was unalbe to be weaned from the ventilator for > 2
   weeks she had a trach placed yesterday.
   - Continue albuterol, ipratroprium inhalers
   - goal of 500 cc - 1 L negative as below to improve volume overload
   - VAP precautions
   - Chest PT
   - Will do a trial of PS to see if she can generate adequate tidal
   volume to be weaned off eventually to a trach mask.
   # Volume status/BP/Tachycardia:
   The patient
s BPs have been better controlled.  She was 2 L negative
   yesterday however still difusely edematous with fluid balance of
   positive 9.6 L for LOS.  With the 2 L of diuresis yesterday she has
   become tachycardic, likely from intrvascular volume depletion.
   - Hold diuresis currently and will give a 250 cc NS bolus for likely
   intravascular volume depletion.
   - Continue BP monitoring
   - Goal I/O should be 500 cc to 1 L negative, once her HR normalizes,
   can restart a very low dose of lasix gtt.
   - Holding lisinopril, carvedilol due to previsou episodes of
   hypotension
   # Rash:
   The patient
s rash is much improved.  Likely secondary to a cefepime
   drug rash. Cefepime was stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Diarrhea is resolved and her abdomen is benign with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 7
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 120
s to 130s,
   likely volume depletion as above. CHADS2 score > 4, requiring
   anticoagulation.
   -  Continue digoxin; will hold of on additional rate control agents
   given her history of labile pressures as she is being actively
   diuresed.
   - Heparin gtt restarted after trach placement.  Will also start
   coumadin today for a goal INR of [**2-10**].
   - If she remains tachycardic after IVF, can consider adding a small
   dose of metoprolol for rate control.
   # Anemia
 HCT stable at 23.7 today (was 24.8 yesterday).  Her Hct was
   in the low 30
s on admission and has trended downward over her stay.
   No clinical evidence of bleeding.  Likely secondary to her acute
   illness.
   - Will continue to trend with a transfusion threshold of 21.
   - recheck HCT this morning
   - guiaic stools
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care required currently

2195-01-14 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   s/p perc trach (#8 Portex) placed at bedside yest.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-14**] 08:08 AM
   Metronidazole - [**2195-1-14**] 10:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   fentanyl patch, Prevacid, Digoxin, Peridex, Atrovent, Lasix gtt- off,
   Heparin gtt- held, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-14**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 117 (81 - 122) bpm
   BP: 105/80(87) {99/28(45) - 159/113(116)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                    755 mL
                                                                    735 mL
   PO:
             TF:
                                                                     31 mL
   IVF:
                                                                    274 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  2,785 mL
                                                                    845 mL
   Urine:
                                                                  2,785 mL
                                                                    545 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                 -2,030 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 6.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), occ extra beats
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.7 g/dL
   452 K/uL
   86 mg/dL
   0.2 mg/dL
   27 mEq/L
   4.4 mEq/L
   5 mg/dL
   97 mEq/L
   132 mEq/L
   23.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2195-1-10**]  03:55 AM
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
                             [**2195-1-13**]  05:35 PM
                             [**2195-1-14**]  04:19 AM
   WBC
   7.1
   6.8
   6.6
   7.6
   7.1
   7.3
   Hct
   28.0
   23.5
   23.6
   25.2
   24.8
   23.7
   Plt
   447
   392
   374
   427
   443
   452
   Cr
   0.2
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   125
   133
   124
   125
   129
   99
   130
   86
   Other labs: PT / PTT / INR:13.2/25.3/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent, intubated x 21d.  Attributed
   primarily to pneumonia (now has completed ABX tx), atalectasis and CHF.
   Continue supportive care. Diuresis for neg fluid balance. [**Month (only) 8**] benefit
   from PRBC or albumin to maintian intravasc pressure while diuresing,
   esp given profound hypo-albuminemia
   -s/p trach yest and stable
   -trial of PS today
   -back off diuresis today, goal balance -500/day
   ANEMIA
 no obvious clinical bleeding.  Monitor Hct serially.
   RASH -- attributed to antibiotics (cefopime).  Resolved.
    C. Diff -- continue antimicrobials (PO Vanco, Flagyl) x total 2 wks
   A-FIB -- rate controlled.  Digoxin alone. Start coumadin tx today
   NUTRITIONAL SUPPORT -- TF via PEG. Hold t.f. after MN for trach
   tomorrow.
   h/o CVA -- stable.  No evidence for new neurological events.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2195-01-15 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt put on trial of CPAP for 4 hours transitioned back to pressure
   support after experiencing an increase in apneic episodes.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2195-1-14**] 05:56 PM
   Vancomycin - [**2195-1-14**] 08:44 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2195-1-14**] 03:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-15**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 107 (83 - 136) bpm
   BP: 143/71(87) {105/46(61) - 154/80(97)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,492 mL
                                                                    799 mL
   PO:
             TF:
                                                                    186 mL
                                                                    182 mL
   IVF:
                                                                    491 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    190 mL
   Urine:
                                                                    925 mL
                                                                    190 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    267 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 368 (349 - 436) mL
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 7.1 L/min
   Physical Examination
   GEN: elderly female lying in bed in NAD
   HEENT: AT/NC, PERRL
   NECK: tracheostomy in place
   PULM: CTAB
   CARD: Irregular, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, non-distended
   EXT: Diffuse 2+ pitting edema
   SKIN: Erythematous rash now improved with some residual desquamation
   present.
   NEURO: Patient is [**Last Name (LF) 3848**], [**First Name3 (LF) 124**] flutter her eyes to voice, will follow
   commands by squeezing her hands on request and opening her mouth.  Also
   will nod to questions.
   Labs / Radiology
   498 K/uL
   7.9 g/dL
   122 mg/dL
   0.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   98 mEq/L
   130 mEq/L
   24.9 %
   5.5 K/uL
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
                             [**2195-1-13**]  05:35 PM
                             [**2195-1-14**]  04:19 AM
                             [**2195-1-15**]  04:04 AM
   WBC
   6.8
   6.6
   7.6
   7.1
   7.3
   5.5
   Hct
   23.5
   23.6
   25.2
   24.8
   23.7
   24.9
   Plt
   392
   374
   427
   [**Telephone/Fax (3) 3868**]
   Cr
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   133
   124
   125
   129
   99
   130
   86
   122
   Other labs: PT / PTT / INR:13.2/25.3/1.1, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   82 year-old female with a history of CVA/dementia s/p PEG, AF, CHF, and
   C. difficile infection/colitis who presented with unresponsiveness and
   respiratory failure in the setting of recent diagnosis of pneumonia s/p
   trach placement [**1-13**].
   # Respiratory failure:
   Has chronic RLL collapse and PNA and completed a 8 day course of
   Meropenem and Vancomycin on [**2195-1-7**].  Patient had a bronchoscopy to
   attempt to open her RLL last weekend and had secretions suctioned.
   Given that she was unable to be weaned from the ventilator for > 2
   weeks she had a trach placed [**1-13**].  Patient had a trial of CPAP
   yesterday for 4 hours, however she had apneic episodes and was placed
   back on pressure support.
   - Continue albuterol, ipratroprium inhalers
   - goal of 500 cc to 1 L negative as below to improve volume overload
   - VAP precautions
   - Chest PT
   # Volume status/BP/Tachycardia:
   The patient
s BP has been generally well controlled.  She was slighly
   slightly positive yesterday and is still difusely edematous with fluid
   balance of positive 10.5 L for LOS.  She remained tachycardic yesterday
   even after a small fluid bolus and has a history of a.fib.
   - Given that her tachycardia did not improve with fluids and she has
   remained tachycardic with an episode in the 130
s, her tachycardia is
   less likely to be due to intravascular volume depletion and more likely
   secondary to her underlying a.fib.   Can consider starting a low dose
   of metoprolol if she continues to be tachycardic.
   - Continue BP monitoring
   - Goal I/O should be 500 cc to 1 L negative, will given lasix 10 mg IV
   once now with reassessment of I/Os in the afternoon.
   - Holding lisinopril, carvedilol due to previsous episodes of
   hypotension
   # Hyponatremia:  The patient
s Na has decreased to 130 today from 132
   from 136.  She is volume overloaded, but does not appear to have CHF,
   cirrhosis, or nephrotic syndrome, so she most likely has SIADH.  Also
   her K is low, making adrenal insufficiency unlikely.
   - Will give 10 mg IV lasix x 1, with afternoon reassessment of I/Os for
   a goal diuresis of 500 cc to 1 L negative to attempt to get rid of free
   water.
   # Rash:
   The patient
s rash is much improved.  Likely secondary to a cefepime
   drug rash. Cefepime was stopped on [**1-1**].
   - Continue eucerin cream daily
   # C Diff colitis:
   Diarrhea is resolved and her abdomen is benign with no signs of
   worsening colitis.
   - Two week course of Vancomycin PO and Metronidazole PO started on
   [**2195-1-8**], now day 8
   - Probiotics via PEG- provided by family.
   # Afib - On digoxin. Hemodynamically stable and rate in 100
s to 130s;
   as above as she did not respond to fluids yesterday, this is more
   likely due to her underlying a.fib. CHADS2 score > 4, requiring
   anticoagulation.  INR of 1.4 today.
   -  Continue digoxin; will hold of on additional rate control agents
   given her history of labile pressures as she is being actively
   diuresed.  Can consider a small dose of metoprolol if she is
   peristently tachy.
   -  Continue coumadin for a goal INR of [**2-10**].
   # Anemia
 HCT stable at 24.9 today (was 23.7 yesterday).  Her Hct was
   in the low 30
s on admission and has trended downward over her stay.
   No clinical evidence of bleeding.  Likely secondary to her acute
   illness.
   - Will continue to trend with a transfusion threshold of 21.
   - recheck HCT this morning
   - guiaic stools
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-15**] 02:27 AM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: SQH until therapeutic on coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2195-01-15 11:10:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tolerated CPAP for 4hrs yest, but changed back to MMV for apneic
   spells.
   Allergies:
   Penicillins
   Unknown;
   Erythromycin Base
   Unknown;
   Cefepime
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2195-1-14**] 08:44 PM
   Metronidazole - [**2195-1-15**] 10:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2195-1-14**] 03:57 PM
   Lansoprazole (Prevacid) - [**2195-1-15**] 08:00 AM
   Other medications:
   fentanyl patch, Prevacid, Digoxin, Atrovent, Lactobacillus, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-1-15**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 104 (83 - 136) bpm
   BP: 145/66(87) {114/44(61) - 154/77(97)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  1,492 mL
                                                                  1,145 mL
   PO:
             TF:
                                                                    186 mL
                                                                    276 mL
   IVF:
                                                                    491 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  1,225 mL
                                                                    310 mL
   Urine:
                                                                    925 mL
                                                                    310 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    267 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 353 (349 - 436) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 96
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), distant hs,
   no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.9 g/dL
   498 K/uL
   122 mg/dL
   0.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   7 mg/dL
   98 mEq/L
   130 mEq/L
   24.9 %
   5.5 K/uL
        [image002.jpg]
                             [**2195-1-10**]  01:16 PM
                             [**2195-1-11**]  04:43 AM
                             [**2195-1-11**]  03:29 PM
                             [**2195-1-11**]  08:34 PM
                             [**2195-1-12**]  04:08 AM
                             [**2195-1-12**]  05:15 PM
                             [**2195-1-13**]  05:03 AM
                             [**2195-1-13**]  05:35 PM
                             [**2195-1-14**]  04:19 AM
                             [**2195-1-15**]  04:04 AM
   WBC
   6.8
   6.6
   7.6
   7.1
   7.3
   5.5
   Hct
   23.5
   23.6
   25.2
   24.8
   23.7
   24.9
   Plt
   392
   374
   427
   [**Telephone/Fax (3) 3868**]
   Cr
   0.2
   0.1
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   0.2
   Glucose
   133
   124
   125
   129
   99
   130
   86
   122
   Other labs: PT / PTT / INR:15.7/25.2/1.4, CK / CKMB /
   Troponin-T:64/6/0.13, ALT / AST:22/24, Alk Phos / T Bili:50/0.8,
   Differential-Neuts:88.0 %, Band:4.0 %, Lymph:2.0 %, Mono:1.0 %, Eos:0.0
   %, Fibrinogen:479 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:1.8 g/dL,
   LDH:360 IU/L, Ca++:7.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- prolonged intub s/p trach [**1-13**]. Continue
   supportive care. Diuresis for neg fluid balance. [**Month (only) 8**] benefit from PRBC
   or albumin to maintian intravasc pressure while diuresing, esp given
   profound hypo-albuminemia
   -s/p trach yest and stable
   -daily trials of SBT
   -back off diuresis today, goal balance -500/day
   HYPONATREMIA- likely hypervolemic clinically. Not getting any free
   water
   -start Lasix diuresis and monitor
   -no evidence of adrenal insuff or SIADH
   C. Diff -- continue antimicrobials (PO Vanco, Flagyl) x total 2 wks
   A-FIB -- rate controlled.  Digoxin alone. Start coumadin tx today
   NUTRITIONAL SUPPORT -- TF via PEG.
   h/o CVA -- stable.  No evidence for new neurological events.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2195-1-15**] 02:27 AM 25 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2195-1-6**] 05:52 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes